2193-02-01 00:36:00 Physician Attending Progress Note
Chief Complaint: respiratory and renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61W DM, obesity, hypoventialtion, COPD - found [**1-24**] unresponsive in
   bed. Admitted to [**Location (un) **] with hypoxemic and hypercarbic respiratory
   failure - intubated. Bronch for collapsed left lung. Placed on vanco,
   levoflox and zosyn, apparently had GPC's in sputum and proteus in
   urine. Creatinine rose during admission  and acidosis worsened.
   Transferred because worsen renal function. Pressors restarted
   yesterday. Receiving kayexelate for hyperkalemia.
   History obtained from Medical records, housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-1-31**] 10:51 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2193-1-31**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   OSA
   obesity, hypoventilation
   COPD - current smoker, on home O2
   diastloic dysfunction on cath
   DM
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-1**] 12:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 78 (78 - 98) bpm
   BP: 136/68(88) {115/57(-6) - 136/68(88)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 41 (-11 - 41)mmHg
   Total In:
                                                                    185 mL
                                                                     37 mL
   PO:
   TF:
   IVF:
                                                                    135 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                     10 mL
   Urine:
                                                                     80 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 533 (533 - 533) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.09/50/102/16/-14
   Ve: 9.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   286 K/uL
   104 mg/dL
   7.5 mg/dL
   16 mEq/L
   6.3 mEq/L
   115 mg/dL
   96 mEq/L
   139 mEq/L
   34.0 %
   19.6 K/uL
        [image002.jpg]
                             [**2193-1-31**]  10:15 PM
                             [**2193-1-31**]  11:15 PM
   WBC
   19.6
   Hct
   34.0
   Plt
   286
   Cr
   7.5
   TCO2
   16
   Glucose
   104
   Other labs: ALT / AST:66/51, Alk Phos / T Bili:63/0.5,
   Differential-Neuts:90.7 %, Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:363 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:14.4 mg/dL
   Imaging: CXR reviewed: poor quality, ETT OK, possible bilat patchy
   infiltrates, ? effusions
   ECG: NSR 75, peaked T's, RBBB
   Assessment and Plan
   Repsiratory failure - seemed likely to be hypercarbic at first due to
   volume loss on left - now corrected. Needs better ventilation, continue
   on vent for now. Some suggestion of pneumonia, continue antibiotics.
   Shock - wean levophed as tolerated, CVP apparently 25, hold off on
   volume resuscitation
   ARF - suspect ATN related to presenting illness, possible antibiotic
   effect, likely CVVH tomorrow for worsening creatinine, potassium and
   acidosis
   acidosis - likely CVVH tomorrow, bicarb drip, increase vent
   hyperkalemia - on bicarb drip, insulin drip along with D5, repleting
   calcium
   UTI - on antibiotics
   DM - on insulin
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-1-31**] 11:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 42 minutes
   Patient is critically ill

2193-02-01 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   pan-cultured
   aline placed
   2 amps bicarb, plus gtt
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-1**] 03:30 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Insulin - Regular - 7 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-1-31**] 10:51 PM
   Pantoprazole (Protonix) - [**2193-2-1**] 12:46 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-1**] 12:46 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2193-2-1**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-1**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (60 - 98) bpm
   BP: 108/50(65) {97/46(-6) - 136/68(88)} mmHg
   RR: 0 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 26 (-11 - 41)mmHg
   Total In:
                                                                    185 mL
                                                                  1,612 mL
   PO:
   TF:
   IVF:
                                                                    135 mL
                                                                  1,562 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                    867 mL
   Urine:
                                                                     80 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 533 (533 - 533) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG: 7.18/43/112/16/-11
   Ve: 10.6 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bilaterlly)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   330 K/uL
   11.4 g/dL
   173 mg/dL
   7.6 mg/dL
   16 mEq/L
   4.9 mEq/L
   123 mg/dL
   97 mEq/L
   139 mEq/L
   34.1 %
   22.4 K/uL
        [image002.jpg]
                             [**2193-1-31**]  10:15 PM
                             [**2193-1-31**]  11:15 PM
                             [**2193-2-1**]  12:29 AM
                             [**2193-2-1**]  03:01 AM
                             [**2193-2-1**]  05:00 AM
                             [**2193-2-1**]  05:08 AM
                             [**2193-2-1**]  07:26 AM
   WBC
   19.6
   22.4
   Hct
   34.0
   34.1
   Plt
   286
   330
   Cr
   7.5
   7.6
   TCO2
   16
   14
   16
   18
   17
   Glucose
   104
   150
   173
   Other labs: PT / PTT / INR:13.4/24.4/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.5 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:13.4 mg/dL
   Imaging: CXR
   Microbiology: Pan-cultured [**2-1**]
   Assessment and Plan
   61 y.o. female who presented with acute respiratory failure and
   hypotension, and developed acute renal failure.
   # Respiratory failure.   Based on report, appears it was hypercarbic
   [**2-11**] hypoventilation with likely contribution of pneumonia (GPCs in
   sputum).  Could also have component of ARDS, although p/f ration on
   most recent ABG does not support this.
   - serial ABGs, now have maxed ventilation to improve acidosis (having
   some auto-peep)
   - Combivent MDIs q6h
   - hold on diuresis while on pressor
   - need to call [**Hospital3 **]to obtain culture data
   - continue zosyn/vanco; dose vanco by level
   # Mixed Respiratory/Metabolic Acidosis.  Lactate nl, Glucose nl.
   Likely due to renal failure.
   - overnight got 2 amp bicarb, plus bicarb gtt
   - serial electrolytes Q4H
   - will likely need renal replacement therapy
   # Hyperkalemia.  Likely [**2-11**] renal failure.
   - ECG: mildly peaked T's; no widening of QRS
   - improved with caclium, insulin0
   - calcium
   - D5/insulin gtt
   - kayexalate
   - renal will dialyze via CVVH
   # Leukocytosis.  Possible sources include CVL, pneumonia, stool (ie
   cdiff).  Could also be from solumedrol given at OSH
   - trend
   - CXR
   - stool for Cdiff
   - replace
   - f/u cultures
   - repeat blood, urine, sputum cx
   - monitor fever curve
   # Steroids
 likely given at OSH for possible COPD flare.
   - slow wean; start with 60mg IV Q8 x 3 days, then Q12 x 3 days, then
   Q24 x 3 days, then off
   # Acute renal failure.  Most likely due to sepsis given time course and
   nl kidney fx upon presentation.  Likely some contribution of reported
   proteus UTI.
   - cont zosyn
   -  ua nl, f/u culture
   - renal c/s; likely will need CVVH given her hypotension, and
   electrolyte and acidosis
   - f/u OSH cultures
   # CV/Hypotension.  Likely sepsis, although cardiogenic shock may be a
   factor given her h/o diastolic and mild systolic dysfunction on recent
   echo.
   - CVP: 21
   - levophed, goal MAP > 65
   - vanco/zosyn for now (vanco level 29, dose by level or daily if she
   goes on CVVH)
   - f/u cultures at [**Location (un) **]
   - repeat cultures here (Blood, urine, sputum)
   # GI: NGT in place.  Per report, had some coffee ground material
   suctioned at OSH
   - monitor Hct daily
   - IV PPI
   # DM: Q1H FS.  Insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-1-31**] 11:13 PM
   18 Gauge - [**2193-2-1**] 04:57 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2193-02-01 09:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transferred to ICU from OSH overnight where she had presented 1 week
   ago with unresponsiveness and hypercarbic/hypoxemic respiratory failure
   requiring intubation.  Course at the OSH complicated by UTI,
   hypotension and acute renal failure with acidemia/hyperkalemia.
   Transferred to [**Hospital1 1**] for CVVH.
   Overnight, minute ventilation increased to improve pH.  IV bicarb,
   insulin, calcium and kayexelate given.  Renal team notified and plans
   were made for RRT to begin today.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-1**] 03:30 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Insulin - Regular - 7 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-1-31**] 10:51 PM
   Pantoprazole (Protonix) - [**2193-2-1**] 12:46 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-1**] 12:46 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2193-2-1**] 03:30 AM
   Other medications:
   Atrovent/Albuterol, colace, peridex, Vancomycin (by level)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-1**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (60 - 98) bpm
   BP: 108/50(65) {97/46(-6) - 136/68(88)} mmHg
   RR: 0 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 26 (-11 - 41)mmHg
   Total In:
                                                                    185 mL
                                                                  1,720 mL
   PO:
   TF:
   IVF:
                                                                    135 mL
                                                                  1,670 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                    867 mL
   Urine:
                                                                     80 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                    853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 533 (533 - 533) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG: 7.18/43/112/16/-11
   Ve: 13.8 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic), distant HS.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , No(t)
   Rhonchorous: ), distant BS
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   330 K/uL
   173 mg/dL
   7.6 mg/dL
   16 mEq/L
   4.9 mEq/L
   123 mg/dL
   97 mEq/L
   139 mEq/L
   34.1 %
   22.4 K/uL
        [image002.jpg]
                             [**2193-1-31**]  10:15 PM
                             [**2193-1-31**]  11:15 PM
                             [**2193-2-1**]  12:29 AM
                             [**2193-2-1**]  03:01 AM
                             [**2193-2-1**]  05:00 AM
                             [**2193-2-1**]  05:08 AM
                             [**2193-2-1**]  07:26 AM
   WBC
   19.6
   22.4
   Hct
   34.0
   34.1
   Plt
   286
   330
   Cr
   7.5
   7.6
   TCO2
   16
   14
   16
   18
   17
   Glucose
   104
   150
   173
   Other labs: PT / PTT / INR:13.4/24.4/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.5 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:13.4 mg/dL
   Imaging: CXR:  ETT in place.  CVC tip in L subclavian.  Retrocardiac
   opacity.  Opacification at R base.  B/L effusions.
   Microbiology: BCx:  Pending
   Sputum Cx:  Pending
   OSH Sputum Cx:  ?GPC on GS
   OSH UCx:  proteus
   ECG: NSR@ 85 BPM.  QRS 120ms.  Mildly peaked T waves.
   Assessment and Plan
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
   Repsiratory failure - Seemed likely to be hypoventilatory at first with
   Left lung atelactasis/ COPD flare.  Now needs large minute ventilation
   to compensate for metabolic acidosis.  Plateau pressures reasonable for
   now. Will optimize PEEP to offset chest wall compliance.
     -Continue current vent support, monitor for autopeep with rapid
   respiratory rate. Replete with HCO3 to offset high minute ventilation
   needs until HD starts. [**Month (only) 11**] need bronch if recurrent LLL atelectasis.
   Will taper steroids.
   Shock - currently on small amount of levophed with MAP's in the high
   80's.  Sepsis plus acidemia most likely culprits.  Possible sources
   include PNA, line infection, and possible c diff.
      -Wean pressors to off today.  Unclear if leukocytosis is related to
   illness or solumedrol that she had been on.
      -Follow up Cultures from OSH as well as cultures here.  Send C diff
      -Reasonable to continue Vanocmycin/Zosyn
      -Replace central line. And send catheter tip for culture
   ARF - suspect ATN related to presenting illness, possible antibiotic
   effect
     -Renal to see today for likely CVVH vs HD. Will need this today after
   access is established
     -Renal dosing to meds.
   Acidosis - Continue IV bicarb and vent support until RRT is initiated
   Hyperkalemia - on bicarb drip, insulin drip along with D5, repleting
   calcium
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-1-31**] 11:13 PM
   18 Gauge - [**2193-2-1**] 04:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2193-02-02 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24h events:
   - had HD and central lines placed in IR
   - began CVVH in the late evening
   - weaned down ventilation overnight to compensate for improved
   metabolic acidosis
   - OSH micro data faxed over, sputum had only coag negative staph, UTI
   was proteus and citrobacter
   - weaned off pressors at 1AM
   This AM, responds appropriately to voice, follows commands, appears in
   NAD.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-2**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-2-2**] 12:01 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-2**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-2**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.2
   HR: 59 (53 - 77) bpm
   BP: 108/49(66) {106/45(62) - 180/79(109)} mmHg
   RR: 20 (0 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 12 (9 - 27)mmHg
   Total In:
                                                                  4,448 mL
                                                                  2,043 mL
   PO:
   TF:
                                                                     78 mL
   IVF:
                                                                  4,358 mL
                                                                  1,965 mL
   Blood products:
   Total out:
                                                                  1,742 mL
                                                                  1,921 mL
   Urine:
                                                                    992 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,706 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/39/142/20/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: morbidly obese, intubated, NAD, follows commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube in place. RIJ HD line in
   place. LIJ TLC in place
   Cardiovascular: unable to appreciate
   Respiratory / Chest: very diminished b/l but no w/r/r appreciated
   Extremities: + edema: 2+ right, left: 2+
   Neurologic: Follows simple commands, responds to voice
   Labs / Radiology
   207 K/uL
   10.0 g/dL
   29 mg/dL
   6.5 mg/dL
   20 mEq/L
   3.9 mEq/L
   104 mg/dL
   98 mEq/L
   142 mEq/L
   28.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2193-2-1**]  05:08 AM
                             [**2193-2-1**]  07:26 AM
                             [**2193-2-1**]  09:15 AM
                             [**2193-2-1**]  11:00 AM
                             [**2193-2-1**]  02:00 PM
                             [**2193-2-1**]  07:03 PM
                             [**2193-2-1**]  07:09 PM
                             [**2193-2-2**]  04:03 AM
                             [**2193-2-2**]  04:12 AM
                             [**2193-2-2**]  06:54 AM
   WBC
   10.3
   Hct
   28.2
   Plt
   207
   Cr
   7.7
   7.5
   7.5
   6.5
   TCO2
   18
   17
   18
   23
   22
   22
   Glucose
   156
   115
   100
   29
   Other labs: PT / PTT / INR:13.4/24.4/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.5 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:9.5 mg/dL
   Imaging: [**2-2**] CXR
   PND
   Microbiology: [**2-1**] OSH CVL cath tip: PND
   [**2-1**] C Diff: negative
   [**2-1**] SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2193-2-1**]):
         <10 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Preliminary):
   [**2-1**] BCx: NGTD
   [**2-1**] UCx: NGTD
   Assessment and Plan
   61 y.o. female with hypercarbic respiratory failure and hypotension,
   now transferred with acute renal failure, acidosis, and volume overload
   requiring RRT.
   # Respiratory failure.   Based on report, appears it was hypercarbic
   [**2-11**] hypoventilation. There was initial concern for a pneumonia
   contributing to her respiratory failure, but this was not borne out in
   her microbiological dats from OSH. No e/o [**Doctor Last Name 2**] given satisfactory P/F
   ratios.
   -- would d/c vanc/zosyn today as no e/o PNA
   -- would allow for permissive hypercapnea to initiate some ventilatory
   drive in her
baseline PCO2 likely in 60-80 range
   -- wean off sedation and switch to PSV today
   - continue combivent MDIs q6h
   -- VAP ppx
   # Acute renal failure.  possibly due to ATN in setting of sepsis and
   hypotension. Did have a proteus and citrobacter UTI, but less likely to
   contribute to her renal failure
   -- appreciate renal involvement, to continue on CCVH today
   -- lyte management per CVVH protocol
   -- would run negative today given her anasarca
   # Mixed Respiratory/Metabolic Acidosis
 now much improved with return
   to normal range pH with use of bicarb gtt and initiation of CVVH.
   -- would allow for permissive hypercapnea as above to avoid an
   alkalosis
   -- ask renal when ok to d/c bicarb gtt
   # Hyperkalemia.  Resolved, was [**2-11**] renal failure.
   # Leukocytosis
 much improved today, down to 10 from 22.
   -- f/u all culture dats (CVL, blood and urine cx)
   -- negative for C Diff
   -- could also be from solumedrol given at OSH
   -- trend WBC count
   -- monitor fever curve
   # ? COPD flare
 begun on steroids  at OSH.
   -- slow wean; start with 60mg IV Q8 x 3 days, then Q12 x 3 days, then
   Q24 x 3 days, then off
   # DM:  not on insulin at home
   -- was hypoglycemic this AM, given D50
   -- d/c insulin gtt
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-2**] 03:00 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   18 Gauge - [**2193-2-1**] 04:57 AM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-02-02 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Got HD line and central line placed in IR yesterday.  Began CVVH.  pH
   improved
   Weaned off of pressors overnight.
   Episode of hypoglycemia this morning while on insulin drip-->drip d/c'd
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-2**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-2-2**] 12:01 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-2**] 12:01 AM
   Other medications:
   Albuterol/atrovent, colace, peridex, solumedrol, Vancomycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-2**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 66 (53 - 77) bpm
   BP: 114/54(70) {106/48(64) - 180/76(109)} mmHg
   RR: 20 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 17 (9 - 27)mmHg
   Total In:
                                                                  4,448 mL
                                                                  2,916 mL
   PO:
   TF:
                                                                    155 mL
   IVF:
                                                                  4,358 mL
                                                                  2,760 mL
   Blood products:
   Total out:
                                                                  1,742 mL
                                                                  2,241 mL
   Urine:
                                                                    992 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,706 mL
                                                                    675 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   Compliance: 19.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/39/142/20/-3
   Ve: 10.1 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, obese
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   207 K/uL
   29 mg/dL
   6.5 mg/dL
   20 mEq/L
   3.9 mEq/L
   104 mg/dL
   98 mEq/L
   142 mEq/L
   28.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2193-2-1**]  05:08 AM
                             [**2193-2-1**]  07:26 AM
                             [**2193-2-1**]  09:15 AM
                             [**2193-2-1**]  11:00 AM
                             [**2193-2-1**]  02:00 PM
                             [**2193-2-1**]  07:03 PM
                             [**2193-2-1**]  07:09 PM
                             [**2193-2-2**]  04:03 AM
                             [**2193-2-2**]  04:12 AM
                             [**2193-2-2**]  06:54 AM
   WBC
   10.3
   Hct
   28.2
   Plt
   207
   Cr
   7.7
   7.5
   7.5
   6.5
   TCO2
   18
   17
   18
   23
   22
   22
   Glucose
   156
   115
   100
   29
   Other labs: PT / PTT / INR:13.4/24.4/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.5 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:9.5 mg/dL
   Imaging: CXR: Lines/ETT in place.  B/L pulmonary edema and loss of L
   hemidiaphragm
   Microbiology: Cath tip:  pending
   C diff:  negative
   Sputum:  No orgs on GS, Cx Pending
   BCx:  NGTD
   UCx: NGTD
   Assessment and Plan
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
   Repsiratory failure - Seemed likely to be hypoventilatory at first with
   Left lung atelactasis/ COPD flare.  Needed large minute ventilation to
   compensate for metabolic acidosis which has improved with CVVH.
   Plateau pressures reasonable for now. Will optimize PEEP to offset
   chest wall compliance.
      -PSV trial today.  Will try to target MV to allow permissive
   hypercapnia.  Baseline PCO2 reportedly in the 70's.
      -Given no clear evidence of PNA at this point, will stop antibiotics
      -Wean off steroids, will change to prednisone 40mg today and taper
   over the coming days.
    Shock - Weaned off pressors overnight.  Had completed course of abx
   for UTI and ?PNA at OSH.  CVC replaced.
    ARF - suspect ATN related to presenting illness, possible antibiotic
   effect
     -Continues CVVH today, will try to run negative with this, now that
   shock is resolved.  [**Month (only) 11**] be able to transition to HD soon.
     -Renal dosing to meds.
     -Send urine eos
    Acidosis - Wean off IV bicarb to limit fluid intake.
    Hyperkalemia - Resolved
   Hypogylcemia:  Now off insulin drip.
     -Monitor FS, RISS if needed.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-2**] 03:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   18 Gauge - [**2193-2-1**] 04:57 AM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2193-02-03 08:35:00 Physician Resident Progress Note
Chief Complaint: Renal failure
   Resp failure
   24 Hour Events:
   -- had to change HD line over wire (IR did by bedside) b/c one of the
   lines was leaking
   -- that derailed the plan to make 1 L negative; ended up being positive
   for the day
   -- pressures have been sig higher overnight; will likley tolerate HD if
   possible to try
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-2**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Fentanyl - 75 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-2**] 11:00 AM
   Midazolam (Versed) - [**2193-2-3**] 02:15 AM
   Fentanyl - [**2193-2-3**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-3**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 97 (65 - 100) bpm
   BP: 163/64(94) {92/46(62) - 177/71(103)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 16 (8 - 20)mmHg
   Total In:
                                                                  6,915 mL
                                                                  3,320 mL
   PO:
   TF:
                                                                    524 mL
                                                                    294 mL
   IVF:
                                                                  6,321 mL
                                                                  2,866 mL
   Blood products:
   Total out:
                                                                  6,877 mL
                                                                  4,797 mL
   Urine:
                                                                  1,640 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     38 mL
                                                                 -1,477 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.31/54/116/28/0
   Ve: 12.5 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   205 K/uL
   10.1 g/dL
   177 mg/dL
   4.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   73 mg/dL
   98 mEq/L
   139 mEq/L
   29.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2193-2-2**]  06:54 AM
                             [**2193-2-2**]  11:01 AM
                             [**2193-2-2**]  11:12 AM
                             [**2193-2-2**]  03:43 PM
                             [**2193-2-2**]  03:57 PM
                             [**2193-2-2**]  07:19 PM
                             [**2193-2-2**]  09:48 PM
                             [**2193-2-2**]  09:56 PM
                             [**2193-2-3**]  03:35 AM
                             [**2193-2-3**]  03:42 AM
   WBC
   8.7
   Hct
   29.0
   Plt
   205
   Cr
   6.0
   5.3
   4.6
   TCO2
   22
   24
   25
   26
   27
   28
   Glucose
   155
   180
   222
   177
   Other labs: PT / PTT / INR:12.5/27.0/1.1, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:7.1 mg/dL
   Imaging: CXR
   Microbiology: [**2193-2-1**]:
   Blood -ngtd
   Urine -ngtd
   Sputum- no growth
   Cdiff - negative
   Assessment and Plan
   61 y.o. female with hypercarbic respiratory failure and hypotension,
   now transferred with acute renal failure, acidosis, and volume overload
   requiring RRT.
   # Respiratory failure.   Based on report, appears it was hypercarbic
   [**2-11**] hypoventilation. There was initial concern for a pneumonia
   contributing to her respiratory failure, but this was not borne out in
   her microbiological dats from OSH. No e/o [**Doctor Last Name 2**] given satisfactory P/F
   ratios.
   -- d/c'd vanc/zosyn as no e/o PNA
   -- would allow for permissive hypercapnea to initiate some ventilatory
   drive in her
baseline PCO2 likely in 60-80 range
   -- SBT- tolerated; however given her renal failure and inability to
   excrete acid, it is unlikely that she would be able to compensate from
   a resp standpoint given her poor reserve; therefore will remain
   intubated until renal fx improves or back on renal replacement therapy
   - continue combivent MDIs q6h
   -- VAP ppx
   # Acute renal failure.  possibly due to ATN in setting of sepsis and
   hypotension. Did have a proteus and citrobacter UTI, but less likely to
   contribute to her renal failure
   -- appreciate renal involvement
   -- urine eos negative
   -- was on CVVH but filter clotted; will try for HD in AM
   -- lyte management; tolerate K+ > 3 with gentle replacement below that
   -- goal negative when dialysis begins
   # Mixed Respiratory/Metabolic Acidosis
 now much improved with return
   to normal range pH with use of bicarb gtt (now off) and initiation of
   CVVH.  Did OK on SBT, but since dialysis on hold (CVVH filter clot), no
   way to excrete acid currently.
   -- would allow for permissive hypercapnea as above to avoid an
   alkalosis
   --  given her renal failure and inability to excrete acid, it is
   unlikely that she would be able to compensate from a respiratory
   standpoint given her poor reserve; therefore will remain intubated
   until renal fx improves or back on renal replacement therapy
   # Hyperkalemia.  Resolved, was [**2-11**] renal failure.
   # Leukocytosis
 resolved.    OSH cultures showed Coag-neg staph on BAL
   [**1-25**], as well as multi-drug sensitive citrobacter and proteus in
   urine.  Stopped Vanco/Zosyn
   -- f/u all culture dats (CVL, blood and urine cx)
   -- negative for C Diff
   -- could also be from solumedrol given at OSH; trying to taper this off
   (currenly on prednisone 40mg daily)
   -- trend WBC count
   -- monitor fever curve
   # ? COPD flare
 begun on steroids  at OSH.
   -- slow wean; now 40mg prednisone, switch to 20mg prednisone on [**2-4**] x
   3 days, then 20mg x 3 days, then off
   # DM:  not on insulin at home
   -- d/c insulin gtt; on insulin sliding scale (tightened [**2-3**])
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-3**] 02:06 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   18 Gauge - [**2193-2-1**] 04:57 AM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-02-03 12:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH catheter replaced as previous one found to have a small leak.
   CVVH circuit this morning clotting.  Decision made to stop CVVH for
   now.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-2**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-2-3**] 02:15 AM
   Fentanyl - [**2193-2-3**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-3**] 08:00 AM
   Other medications:
   Albuterol/Atrovent, docusate, peridex, lansoprazole, predisone 40mg,
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-3**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 80 (71 - 100) bpm
   BP: 126/56(74) {92/46(62) - 177/74(103)} mmHg
   RR: 14 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (8 - 20)mmHg
   Total In:
                                                                  6,915 mL
                                                                  4,809 mL
   PO:
   TF:
                                                                    524 mL
                                                                    373 mL
   IVF:
                                                                  6,321 mL
                                                                  4,275 mL
   Blood products:
   Total out:
                                                                  6,877 mL
                                                                  6,123 mL
   Urine:
                                                                  1,640 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     38 mL
                                                                 -1,314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 622 (622 - 622) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.30/58/111/28/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic), distant HS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   205 K/uL
   177 mg/dL
   4.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   73 mg/dL
   98 mEq/L
   139 mEq/L
   29.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2193-2-2**]  11:01 AM
                             [**2193-2-2**]  11:12 AM
                             [**2193-2-2**]  03:43 PM
                             [**2193-2-2**]  03:57 PM
                             [**2193-2-2**]  07:19 PM
                             [**2193-2-2**]  09:48 PM
                             [**2193-2-2**]  09:56 PM
                             [**2193-2-3**]  03:35 AM
                             [**2193-2-3**]  03:42 AM
                             [**2193-2-3**]  09:17 AM
   WBC
   8.7
   Hct
   29.0
   Plt
   205
   Cr
   6.0
   5.3
   4.6
   TCO2
   24
   25
   26
   27
   28
   30
   Glucose
   155
   180
   222
   177
   Other labs: PT / PTT / INR:12.5/27.0/1.1, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:7.1 mg/dL
   Fluid analysis / Other labs: Urine eos neg
   Imaging: CXR:  Poor film, rotated.  ETT in place.  B/L effusions R>L.
   Microbiology: Blood Cx:  NGTD
   Urine Cx:  NGTD
   Sputum Cx:  NGTD
   C diff: neg x 1
   Assessment and Plan
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
    Repsiratory failure - Seemed likely to be hypoventilatory at first
   with Left lung atelactasis/ COPD flare.  Needed large minute
   ventilation to compensate for metabolic acidosis which has improved
   with CVVH but she is still "relatively acidemic" compared to her
   baseline profound compensatory metabolic alkalosis.   Currently
   tolerating PSV today.
     -SBT today, will likely not extubate today as she will need to become
   more metabolically alkalemic before she can survive with her baseline
   minute ventilation.
     -Will taper steroids this week, starting with decrease to 20mg
   tomorrow.
    Shock - Remains off pressors over the last 36 hours.  Had completed
   course of abx for UTI and ?PNA at OSH.  CVC replaced.
     ARF - suspect ATN related to presenting illness, possible antibiotic
   effect.  Urine eos negative
     -CVVH filter clotted today.  Will hold on further CVVH for now and
   transition to HD.  Monitor pH/bicarb off of CVVH.
     -Renal dosing to meds.
    Hypogylcemia:  Now off insulin drip.
     -Monitor FS, RISS if needed.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   18 Gauge - [**2193-2-1**] 04:57 AM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2193-02-04 07:39:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   - been off levophed > 24 hrs
   - CVVH filter clotted (again)
   - plan to not re-start CVVH given improved BP; instead renal will try
   HD
   - had SBT; did well, but felt she didn't have enough respiratory
   reserve to compensate for lack of renal excretion of H+, so kept
   intubated
   - back on a rate to maintain adequate minute ventilation to maintain
   acid-base status
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-2**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-3**] 08:00 AM
   Lansoprazole (Prevacid) - [**2193-2-3**] 11:00 AM
   Fentanyl - [**2193-2-3**] 05:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-4**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 89 (77 - 102) bpm
   BP: 181/87(119) {103/50(65) - 181/87(119)} mmHg
   RR: 21 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 28 (12 - 28)mmHg
   Total In:
                                                                  5,791 mL
                                                                    819 mL
   PO:
   TF:
                                                                    841 mL
                                                                    267 mL
   IVF:
                                                                  4,611 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  6,793 mL
                                                                    650 mL
   Urine:
                                                                  1,500 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,002 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 67 (67 - 622) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 37 cmH2O
   SpO2: 100%
   ABG: 7.34/52/136/26/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   9.1 g/dL
   95 mg/dL
   4.4 mg/dL
   26 mEq/L
   3.0 mEq/L
   68 mg/dL
   99 mEq/L
   140 mEq/L
   26.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2193-2-2**]  09:56 PM
                             [**2193-2-3**]  03:35 AM
                             [**2193-2-3**]  03:42 AM
                             [**2193-2-3**]  09:17 AM
                             [**2193-2-3**]  12:13 PM
                             [**2193-2-3**]  12:37 PM
                             [**2193-2-3**]  04:26 PM
                             [**2193-2-3**]  09:23 PM
                             [**2193-2-4**]  04:02 AM
                             [**2193-2-4**]  04:28 AM
   WBC
   8.7
   8.0
   Hct
   29.0
   26.7
   Plt
   205
   210
   Cr
   4.6
   4.4
   TCO2
   27
   28
   30
   29
   30
   30
   29
   Glucose
   177
   147
   95
   Other labs: PT / PTT / INR:11.8/25.1/1.0, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic respiratory failure and
   hypotension, now transferred with acute renal failure, acidosis, and
   volume overload requiring CVVH.
   # Respiratory failure.   Likely secondary to hypercarbic respiratory
   failure in the setting of likely pneumonia. Currently with evidence of
   volume loss in the left lung on CXR with possible shifting of
   structures towards the left, raising suspicion for atelectasis and
   collapse of the LLL/lingual, perhaps due to mucous plugging.
   -- bronchoscopy today to evaluate left side
 BAL with culture
   -- d/c'd vanc/zosyn as no e/o PNA
   -- allow for permissive hypercapnea to initiate some ventilatory
   drive
baseline PCO2 likely in 60-80 range
   -- SBT- tolerated; however given her renal failure and inability to
   excrete acid, it is unlikely that she would be able to compensate from
   a resp standpoint given her poor reserve; therefore will remain
   intubated until renal fx improves or back on renal replacement therapy
   - continue combivent MDIs q6h
   -- VAP ppx
   # Acute renal failure.  likely due to ATN in setting of sepsis and
   hypotension. Did have a proteus and citrobacter UTI, but less likely to
   contribute to her renal failure
   -- appreciate renal involvement
   -- urine eos negative
   -- holding on HD today, urine production has been good today, will
   reevaluate daily
   -- lyte management; tolerate K+ > 3 with gentle replacement below that
   -- goal negative when dialysis begins
   # Mixed Respiratory/Metabolic Acidosis
 now much improved with return
   to normal range pH with use of bicarb gtt (now off) and initiation of
   CVVH.  Did OK on SBT, but since dialysis on hold (CVVH filter clot), no
   way to excrete acid currently.
   -- would allow for permissive hypercapnea as above to avoid an
   alkalosis
   -- given her renal failure and inability to excrete acid, it is
   unlikely that she would be able to compensate from a respiratory
   standpoint given her poor reserve; therefore will remain intubated
   until renal fx improves or back on renal replacement therapy
   # Hyperkalemia.  Resolved, was [**2-11**] renal failure.
   # Leukocytosis
 resolved.    OSH cultures showed Coag-neg staph on BAL
   [**1-25**], as well as multi-drug sensitive citrobacter and proteus in
   urine.  Stopped Vanco/Zosyn
   -- f/u all culture dats (CVL, blood and urine cx)
   -- negative for C Diff
   -- could also be from solumedrol given at OSH; trying to taper this off
   (currenly on prednisone 40mg daily)
   -- trend WBC count
   -- monitor fever curve
   # ? COPD flare
 begun on steroids  at OSH.
   -- slow wean; now 40mg prednisone, switch to 20mg prednisone on [**2-4**] x
   3 days, then 20mg x 3 days, then off
   # DM:  not on insulin at home
   -- d/c insulin gtt; on insulin sliding scale (tightened [**2-3**])
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-3**] 07:12 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT:  subcut heparin
   Stress ulcer:  ppi
   VAP:  HOB >30 degrees, oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2193-02-04 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained off pressors and CVVH overnight but with increasing urine
   output
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-2**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-3**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-4**] 08:00 AM
   Midazolam (Versed) - [**2193-2-4**] 09:45 AM
   Fentanyl - [**2193-2-4**] 09:45 AM
   Other medications:
   peridex, colace, albuterol/atrovent, RISS, prednisone 20mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-4**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 81 (65 - 102) bpm
   BP: 102/43(59) {102/43(59) - 181/87(119)} mmHg
   RR: 17 (0 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 28 (12 - 28)mmHg
   Total In:
                                                                  5,791 mL
                                                                  1,032 mL
   PO:
   TF:
                                                                    841 mL
                                                                    315 mL
   IVF:
                                                                  4,611 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  6,793 mL
                                                                    980 mL
   Urine:
                                                                  1,500 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,002 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 67 (67 - 498) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   SpO2: 93%
   ABG: 7.29/60/77.[**Numeric Identifier **]/26/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Obese extremities
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   210 K/uL
   95 mg/dL
   4.4 mg/dL
   26 mEq/L
   3.0 mEq/L
   68 mg/dL
   99 mEq/L
   140 mEq/L
   26.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2193-2-3**]  03:35 AM
                             [**2193-2-3**]  03:42 AM
                             [**2193-2-3**]  09:17 AM
                             [**2193-2-3**]  12:13 PM
                             [**2193-2-3**]  12:37 PM
                             [**2193-2-3**]  04:26 PM
                             [**2193-2-3**]  09:23 PM
                             [**2193-2-4**]  04:02 AM
                             [**2193-2-4**]  04:28 AM
                             [**2193-2-4**]  09:55 AM
   WBC
   8.7
   8.0
   Hct
   29.0
   26.7
   Plt
   205
   210
   Cr
   4.6
   4.4
   TCO2
   28
   30
   29
   30
   30
   29
   30
   Glucose
   177
   147
   95
   Other labs: PT / PTT / INR:11.8/25.1/1.0, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Albumin:3.0
   g/dL, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.5 mg/dL
   Imaging: CXR:  Lines, tubes in appropriate place.  Loss of L
   hemidiaphragm.  R infiltrate vs effusion.
   Microbiology: Cath tip:  Negative
   BCx:  NGTD
   UCx: NGTD
   c diff: neg x 1.
   Assessment and Plan
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
    Repsiratory failure - Seemed likely to be hypoventilatory at first
   with Left lung atelactasis/ COPD flare.  Current barriers include
   edema, effusion, LLL atelectasis, and chest wall stiffness.
     -Will bronch today to eval for endobronchial blockage of LLL with
   secretions
     -Remains off abx for now
     -Wean PSV with serial ABGs
     -Continue to taper prednisone this week.
     ARF - suspect ATN related to presenting illness, possible antibiotic
   effect.  Urine eos negative.  Making a lot of urine today.
     -Will monitor volume status/urine output today without HD
     -If unable to maintain negative volume balance, will consider HD.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2193-02-05 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-2-4**] 11:30 AM
   -notable for mucous on L
   -BAL pending
 BAL FLUID CULTURE - At [**2193-2-4**] 11:30 AM
   Blood pressure labile, MAPs falling into 50's in early evening.
   Responded well to IVF; received total of 1.5 L NS bolus.
   Developed low grade fever at 8 PM, pan cultured.
 BLOOD CULTURED - At [**2193-2-4**] 07:57 PM
 URINE CULTURE - At [**2193-2-4**] 07:57 PM
 FEVER - 101.2
F - [**2193-2-5**] 05:32 AM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-2-4**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-2-5**] 01:03 AM
   Midazolam (Versed) - [**2193-2-5**] 02:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-5**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 107 (66 - 111) bpm
   BP: 138/61(83) {89/37(52) - 164/76(103)} mmHg
   RR: 20 (15 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 12 (9 - 15)mmHg
   Total In:
                                                                  3,283 mL
                                                                    389 mL
   PO:
   TF:
                                                                    735 mL
                                                                    252 mL
   IVF:
                                                                  2,208 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,677 mL
                                                                    955 mL
   Urine:
                                                                  1,677 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,606 mL
                                                                   -566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 459 (459 - 508) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 24 cmH2O
   Plateau: 29 cmH2O
   SpO2: 95%
   ABG: 7.27/56/121/26/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, significant total body dependent
   edema
   Skin:  warm and well perfused, no rashes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli
   Labs / Radiology
   207 K/uL
   8.9 g/dL
   111 mg/dL
   5.0 mg/dL
   26 mEq/L
   3.4 mEq/L
   76 mg/dL
   101 mEq/L
   141 mEq/L
   25.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2193-2-3**]  04:26 PM
                             [**2193-2-3**]  09:23 PM
                             [**2193-2-4**]  04:02 AM
                             [**2193-2-4**]  04:28 AM
                             [**2193-2-4**]  09:55 AM
                             [**2193-2-4**]  03:35 PM
                             [**2193-2-4**]  04:30 PM
                             [**2193-2-5**]  03:37 AM
                             [**2193-2-5**]  03:47 AM
                             [**2193-2-5**]  05:40 AM
   WBC
   8.0
   11.0
   Hct
   26.7
   25.8
   Plt
   210
   207
   Cr
   4.4
   5.0
   TCO2
   30
   30
   29
   30
   29
   30
   28
   27
   Glucose
   95
   111
   Other labs: PT / PTT / INR:12.4/23.7/1.0, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:7.6 mg/dL
   Assessment and Plan
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic respiratory failure and
   hypotension, now transferred with acute renal failure, acidosis, and
   volume overload requiring CVVH.
   # Respiratory failure.  Secondary to hypercarbic respiratory failure in
   the setting of likely pneumonia. Remains intubated but doing well on
   CPAP/PS throughout yesterday and overnight. Continued need for
   intubation is mainly related to relative metabolic acidosis in the
   setting of chronic respiratory acidosis with compensatory metabolic
   alkalosis; patient likely does not have the respiratory reserve to
   compensate for the acid load as the result of her renal failure. Now
   with spiking temp and new infiltrate on CXR today (RLL appears worse,
   although official read is pulmonary edema; bronchoscopy yesterday with
   BAL from left side 1+polys and no organisms on gram stain), raises
   concern for VAP. Patient was on vanco/zosyn, but given negative culture
   data, these were d/c
   -- restart coverage for VAP with vanco/zosyn
   -- follow blood, sputum, urine, BAL cultures
   -- can attempt to use bicarb gtt (or lasix when more stable clinically)
   to push her acid-base status in the more alkalemic range to facilitate
   liberation from the vent
   -- allow for permissive hypercapnea to initiate ventilatory
   drive
baseline PCO2 likely in 60-80 range
   -- SBT- tolerated, continue daily
   - continue combivent MDIs q6h
   # Hypotension. Overnight, responded to 1.5L NS bolus and has remained
   stable. In the setting of new fevers. Monitor carefully for further
   signs of decompensation.
   # Volume Overload. Clinically overloaded. Overnight was hypotensive.
   Will hold on any diuresis until stabilized. I/O goal today even.
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Creatinine was trending down but bumped slightly
   overnight.
   -- appreciate renal involvement
   -- holding on HD again today, urine production was about 1.6L
   yesterday, currently about 30-60cc/hr now.
   -- lyte management; tolerate K+ > 3 with gentle replacement below that
   -- goal negative when dialysis begins
   # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
on CVVH now off, holding on HD for now. See above
   discussion of use of bicarb gtt vs. lasix pending clinical stability.
   # Leukocytosis
 initially resolved, but with fevers, wbc bumped from 8
   to 11 with very slight left shift.  OSH cultures showed Coag-neg staph
   on BAL [**1-25**], as well as multi-drug sensitive citrobacter and proteus in
   urine.  Stopped Vanco/Zosyn initially, but have now restarted given new
   infiltrate and fevers.
   -- f/u all culture dats (CVL, blood and urine cx)
   -- negative for C Diff
   -- could also be from solumedrol given at OSH; trying to taper this off
   (currenly on prednisone 40mg daily)
   -- trend WBC count
   -- monitor fever curve
    # ? COPD flare
 begun on steroids  at OSH.
   -- slow wean; now 40mg prednisone, switch to 20mg prednisone on [**2-4**] x
   3 days, then 20mg x 3 days, then off
    # DM:  not on insulin at home
   -- d/c insulin gtt; on insulin sliding scale (tightened [**2-3**])
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-5**] 02:13 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2193-02-05 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Underwent bronchoscopy yesterday:  Small amount of secretions in LMS,
   LLL.  Moderate bronchomalacia
   Mild hypotension overnight-->fluid responsive
   Spiked fever this morning.
   History obtained from Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-2-4**] 02:00 PM
   Midazolam (Versed) - [**2193-2-5**] 02:56 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-5**] 08:00 AM
   Other medications:
   peridex, albuterol, colace, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-5**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 85 (72 - 111) bpm
   BP: 110/54(71) {89/37(52) - 164/76(103)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 22 (9 - 22)mmHg
   Total In:
                                                                  3,283 mL
                                                                    596 mL
   PO:
   TF:
                                                                    735 mL
                                                                    393 mL
   IVF:
                                                                  2,208 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,677 mL
                                                                  1,125 mL
   Urine:
                                                                  1,677 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,606 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 460 (459 - 508) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 18 cmH2O
   Plateau: 29 cmH2O
   SpO2: 93%
   ABG: 7.27/56/121/26/-1
   Ve: 10.9 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic), distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Obese extremities
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   207 K/uL
   111 mg/dL
   5.0 mg/dL
   26 mEq/L
   3.4 mEq/L
   76 mg/dL
   101 mEq/L
   141 mEq/L
   25.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2193-2-3**]  04:26 PM
                             [**2193-2-3**]  09:23 PM
                             [**2193-2-4**]  04:02 AM
                             [**2193-2-4**]  04:28 AM
                             [**2193-2-4**]  09:55 AM
                             [**2193-2-4**]  03:35 PM
                             [**2193-2-4**]  04:30 PM
                             [**2193-2-5**]  03:37 AM
                             [**2193-2-5**]  03:47 AM
                             [**2193-2-5**]  05:40 AM
   WBC
   8.0
   11.0
   Hct
   26.7
   25.8
   Plt
   210
   207
   Cr
   4.4
   5.0
   TCO2
   30
   30
   29
   30
   29
   30
   28
   27
   Glucose
   95
   111
   Other labs: PT / PTT / INR:12.4/23.7/1.0, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:90.7 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:7.6 mg/dL
   Imaging: CXR:  HD line/CVC/ETT in position.  Less L base volume loss
   today.  ?increase in RLL density.
   Microbiology: BCx: Pending
   BAL:  1+ polys, no orgs
   UCx:  Pending
   Assessment and Plan
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
    Fever:  New rise in temperature and WBC count.  Change in CXR this
   AM.  Concern for VAP in this setting.  Less likely line infections.
     -F/u BAL, spend new sputum culture
     -Empric Vancomycin/Zosyn for now.
     -Follow up blood cultures
    Repsiratory failure - Seemed likely to be hypoventilatory at first
   with Left lung atelactasis/ COPD flare.  Current barriers include
   edema, effusion, LLL atelectasis ?new VAP, and chest wall stiffness.
     -Her bronchoscopy suggested bronchomalacia as well.
     -Empiric treatment for VAP as above
     -Once this new fever/hypotension resolved, will try to diurese.
     -Continue to taper prednisone this week.
   -- hold off on any attempts to extubate until she is stable form
   infection issues and able to defend her ability to protect airway
     ARF - suspect ATN related to presenting illness, possible antibiotic
   effect.  Urine eos negative.  Non-oliguric at present and likely in
   diuretic phase of ATN until sepsis/ hypotension developed.
     -Will monitor volume status/urine output today without HD
     -Volume goal even today.
   -  pressors as needed for MAP and GFR
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-5**] 02:13 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-02-06 07:48:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   Patient had worsening acidosis on ABG overnight, put on A/C with
   improvement in acid base status, then switched back to CPAP/PS.
   Oxygenation seems to have trended down as well.
   Continues to spike as well. Had been restarted on Vanco/Zosyn
   yesterday.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2193-2-5**] 12:30 PM
   Piperacillin - [**2193-2-6**] 04:00 AM -> stopped [**2193-2-6**]
   Meropenem started [**2193-2-6**]
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   no changes; patient is intubated.
   Flowsheet Data as of  [**2193-2-6**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.2
C (100.8
   HR: 100 (77 - 112) bpm
   BP: 149/71(95) {104/52(68) - 170/90(116)} mmHg
   RR: 20 (18 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 26 (16 - 30)mmHg
   Total In:
                                                                  1,697 mL
                                                                    621 mL
   PO:
   TF:
                                                                    841 mL
                                                                    273 mL
   IVF:
                                                                    856 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    480 mL
   Urine:
                                                                  1,460 mL
                                                                    400 mL
   NG:
   Stool:
                                                                    100 mL
                                                                     80 mL
   Drains:
   Balance:
                                                                   -263 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 553 (437 - 553) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   RSBI Deferred: RR >35, No Spon Resp
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.30/53/80.[**Numeric Identifier 500**]/26/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
 harsh holosystolic murmur
   heard best at the LUSB and radiating across the precordium (more harsh
   than yesterday)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, significant total body dependent
   edema
   Skin:  warm and well perfused, no rashes
   Neurologic: sedated Responds to: Verbal stimuli
   Labs / Radiology
   222 K/uL
   8.5 g/dL
   146 mg/dL
   5.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   80 mg/dL
   104 mEq/L
   143 mEq/L
   25.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2193-2-4**]  09:55 AM
                             [**2193-2-4**]  03:35 PM
                             [**2193-2-4**]  04:30 PM
                             [**2193-2-5**]  03:37 AM
                             [**2193-2-5**]  03:47 AM
                             [**2193-2-5**]  05:40 AM
                             [**2193-2-5**]  05:44 PM
                             [**2193-2-5**]  06:52 PM
                             [**2193-2-6**]  05:53 AM
                             [**2193-2-6**]  06:04 AM
   WBC
   11.0
   10.7
   Hct
   25.8
   25.5
   Plt
   207
   222
   Cr
   5.0
   5.5
   TCO2
   30
   29
   30
   28
   27
   27
   26
   27
   Glucose
   111
   146
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:82.7 %,
   Lymph:10.0 %, Mono:4.7 %, Eos:2.4 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   MICRO:
   [1][**2193-2-6**]
   SPUTUM
   GRAM STAIN-PENDING; RESPIRATORY CULTURE-PENDING
   [2][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [3][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2193-2-6**]
   URINE
   URINE CULTURE-PENDING
   [5][**2193-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [6][**2193-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [7][**2193-2-4**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [8][**2193-2-4**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL (negative
 1+ polys, no
   microorganisms)
   [9][**2193-2-1**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   [10][**2193-2-1**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [11][**2193-2-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   [12][**2193-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [13][**2193-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [14][**2193-2-1**]
   URINE
   URINE CULTURE-FINAL
   IMAGING:
   CXR: [**2193-2-7**]
 no significant interval change (prelim report)
   Assessment and Plan
   Assessment and Plan
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now transferred with acute renal failure, acidosis,
   and volume overload requiring CVVH.
   # Respiratory failure.  Secondary to hypercarbic respiratory failure in
   the setting of likely pneumonia.  Slightly more hypoxemic overnight,
   possible etiologies include brewing VAP vs. mucous plugging (although
   vent pressures are not changed), vs. volume overload and vascular
   congestion. Mostly likely, the patient is volume overloaded, but her
   fevers are concerning for new pulmonary source for infection. Continued
   need for intubation is mainly related to relative metabolic acidosis in
   the setting of chronic respiratory acidosis with compensatory metabolic
   alkalosis; patient likely does not have the respiratory reserve to
   compensate for the acid load as the result of her renal failure.
   Patient continues to spike through vanco/zosyn; given that she
   completed about 5-6 days of this regimen and that this could be
   hospital GNR
s at this point, we will expand to Meropenem.
   -- cover for VAP with vanco/meropenem
   -- follow blood, sputum, urine, BAL cultures
   -- lasix today now that BP is stable; will help to correct acid base
   status in an effort to optimize extubation
   -- allow for permissive hypercapnea to initiate ventilatory
   drive
baseline PCO2 likely in 60-80 range
   -- monitor ABG
   -- SBT- tolerated, continue daily
   -- continue combivent MDIs q6h
   # Hypotension. Stable, no further episodes
   # Volume Overload. Clinically overloaded. Will attempt diuresis today
   with lasix.
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Creatinine was trending down but  now continues to rise
   -- appreciate renal involvement
   -- holding on HD again today, urine production was about 1.6L
   yesterday, currently about 30-60cc/hr now.
   -- lyte management; tolerate K+ > 3 with gentle replacement below that
   -- goal negative by 500cc to 1L today
   # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
was on CVVH now off, holding on HD for now. Will
   try to diurese today.
   # Leukocytosis
 initially resolved, but with fevers, wbc bumped from 8
   to 11 with very slight left shift.  OSH cultures showed Coag-neg staph
   on BAL [**1-25**], as well as multi-drug sensitive citrobacter and proteus in
   urine.  Stopped Vanco/Zosyn initially, but restarted given fevers. ?
   drug reaction with maculopapular rash over back with fevers. Switched
   zosyn to Meropenem and will send for diff to look for peripheral
   eosinophilia.
   -- f/u all culture dats (CVL, blood and urine cx)
   -- d/c prednisone today
   -- trend WBC count
   -- monitor fever curve
    # ? COPD flare
 begun on steroids  at OSH.
   -- slow wean; last dose of 20mg today.
    # DM:  not on insulin at home. FS range in high 100
s mostly. Can
   tighten scale slightly today.
   -- d/c insulin gtt; on insulin sliding scale (tightened [**2-3**])
   # FEN: diuresing today; TF
s at goal. Replete lytes with caution given
   renal failure.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-6**] 06:45 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer: ppi
   VAP:  HOB>30, oral care, chlorhex.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2193-02-06 10:23:00 Physician Attending Progress Note
Chief Complaint: CVVD, renal failure , respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Metabolic and resp acidosis
   24 Hour Events:
   New fever, now on Vanc/Zosyn.
   Failed CPAP as well, put back on AC due to worsening acodosis.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2193-2-5**] 12:30 PM
   Piperacillin - [**2193-2-6**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-6**] 08:00 AM
   Midazolam (Versed) - [**2193-2-6**] 08:00 AM
   Fentanyl - [**2193-2-6**] 08:00 AM
   Other medications:
   Pred 20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-6**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 112 (77 - 113) bpm
   BP: 140/64(87) {104/52(68) - 170/90(116)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 21 (18 - 30)mmHg
   Total In:
                                                                  1,697 mL
                                                                    768 mL
   PO:
   TF:
                                                                    841 mL
                                                                    349 mL
   IVF:
                                                                    856 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    700 mL
   Urine:
                                                                  1,460 mL
                                                                    620 mL
   NG:
   Stool:
                                                                    100 mL
                                                                     80 mL
   Drains:
   Balance:
                                                                   -263 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (425 - 553) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   RSBI Deferred: RR >35, No Spon Resp
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.30/53/80.[**Numeric Identifier 500**]/26/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), All pulses
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   222 K/uL
   146 mg/dL
   5.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   80 mg/dL
   104 mEq/L
   143 mEq/L
   25.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2193-2-4**]  09:55 AM
                             [**2193-2-4**]  03:35 PM
                             [**2193-2-4**]  04:30 PM
                             [**2193-2-5**]  03:37 AM
                             [**2193-2-5**]  03:47 AM
                             [**2193-2-5**]  05:40 AM
                             [**2193-2-5**]  05:44 PM
                             [**2193-2-5**]  06:52 PM
                             [**2193-2-6**]  05:53 AM
                             [**2193-2-6**]  06:04 AM
   WBC
   11.0
   10.7
   Hct
   25.8
   25.5
   Plt
   207
   222
   Cr
   5.0
   5.5
   TCO2
   30
   29
   30
   28
   27
   27
   26
   27
   Glucose
   111
   146
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB / Troponin-T:202//,
   ALT / AST:62/39, Alk Phos / T Bili:65/0.6, Differential-Neuts:82.7 %,
   Lymph:10.0 %, Mono:4.7 %, Eos:2.4 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   Imaging: CXR: L collapse vs effusion
   R improved infiltrate
   Microbiology: BAL: ngtd
   blood cx: ngtd
   urine cx: yeast
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
    Repsiratory failure - Seemed likely to be hypoventilatory at first
   with Left lung atelactasis/ COPD flare.  Current barriers include
   edema, effusion, LLL atelectasis ?new VAP, and chest wall stiffness and
   wheeze
     -Her bronchoscopy suggested bronchomalacia as well.
     -Empiric treatment for VAP: Vanc/zosyn restarted with fever
   overnight. Expand to Vanc and Meropenem.
   - Try to diurese today.
     -Continue to taper prednisone this week.
   -- try daily SBT if possible: resp + metabolic acidosis and metabolic
   acidosis
    Fever: Abx changed as above...look for ICU causes of fever if doesnt
   respond.
     ARF - suspect ATN related to presenting illness. Try diuresis today
   and follow creat. Off CVVH. Need to optimize abx doses. If lasix
   doesn
t help , we will D/C in 24 hrs.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-6**] 06:45 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 mins
   Patient is critically ill

2193-02-07 03:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   events:
   - gave 20mg IV lasix, then 40mg IV lasix with moderate response, but
   started lasix gtt at 9pm for goal negative 500cc-1L
   - drop in oxygenation and worsened respiratory acidosis - increased
   CPAP/PS to 15/8 with improvement in ABG
   - TTE negative for vegetations
   - urine and sputum growing yeast
   - rash on  back ?zosyn allergy -> switched to meropenem for better GNR
   coverage [**2193-2-6**], no peripheral eos
   medication changes:
   - d/c zosyn -> meropenem
   - d/c prednisone [**2193-2-6**]
   recommendations from consult teams:
   - Renal - check culture from HD line, lasix
   [1][**2193-2-7**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2193-2-7**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2193-2-7**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   INPATIENT
   [4][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2193-2-6**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {YEAST}
   INPATIENT
   [6][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [8][**2193-2-6**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [9][**2193-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [10][**2193-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [11][**2193-2-4**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [12][**2193-2-4**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [13][**2193-2-1**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [14][**2193-2-1**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [15][**2193-2-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   INPATIENT
   [16][**2193-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [17][**2193-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [18][**2193-2-1**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2193-2-6**] 04:00 AM
   Vancomycin - [**2193-2-6**] 11:30 AM
   Meropenem - [**2193-2-7**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-6**] 08:00 AM
   Midazolam (Versed) - [**2193-2-6**] 04:00 PM
   Fentanyl - [**2193-2-6**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-2-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-7**] 03:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.9
   HR: 79 (72 - 118) bpm
   BP: 112/52(69) {91/46(60) - 165/75(105)} mmHg
   RR: 23 (7 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 21 (18 - 26)mmHg
   Total In:
                                                                  1,984 mL
                                                                    354 mL
   PO:
   TF:
                                                                    841 mL
                                                                    138 mL
   IVF:
                                                                    813 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    560 mL
   Urine:
                                                                  2,200 mL
                                                                    560 mL
   NG:
   Stool:
                                                                     80 mL
   Drains:
   Balance:
                                                                   -296 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 524 (425 - 553) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 38
   RSBI Deferred: RR >35, No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.30/54/89.[**Numeric Identifier 433**]/26/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: Intubated and sedated, responding to verbal stimuli, following
   simple commands
   CVS: +S1/S2, II/VII SEM LUSB, RRR
   LUNGS: CTAB, no crackles anteriorly
   ABD: +BS, NT/ND, extremely obese
   EXT: no c/c, +2 peripheral edema
   SKIN: no rash anteriorly, +maculopapular rash over upperback. Unable to
   assess entire back [**2-11**] obesity and inability to move patient easily in
   bed
   Labs / Radiology
   222 K/uL
   8.5 g/dL
   146 mg/dL
   5.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   80 mg/dL
   104 mEq/L
   143 mEq/L
   25.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2193-2-5**]  03:47 AM
                             [**2193-2-5**]  05:40 AM
                             [**2193-2-5**]  05:44 PM
                             [**2193-2-5**]  06:52 PM
                             [**2193-2-6**]  05:53 AM
                             [**2193-2-6**]  06:04 AM
                             [**2193-2-6**]  11:18 AM
                             [**2193-2-6**]  12:08 PM
                             [**2193-2-6**]  03:30 PM
                             [**2193-2-7**]  12:33 AM
   WBC
   10.7
   Hct
   25.5
   Plt
   222
   Cr
   5.5
   TCO2
   28
   27
   27
   26
   27
   25
   27
   28
   28
   Glucose
   146
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:83.1 %,
   Lymph:8.5 %, Mono:4.8 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now transferred with acute renal failure, acidosis,
   and volume overload requiring CVVH.
   # Respiratory failure.  Secondary to hypercarbic respiratory failure in
   the setting of likely pneumonia.  Continued need for intubation is
   mainly related to relative metabolic acidosis in the setting of chronic
   respiratory acidosis with compensatory metabolic alkalosis; patient
   likely does not have the respiratory reserve to compensate for the acid
   load as the result of her renal failure.  Renal has recommended to
   treat with lasix to increased serum bicarbonate.  Patient was placed on
   a lasix drip with good response.  Patient continued to spike through
   vanco/zosyn and has now been broadened to Vanco/Meropenem.  Sputum and
   urine cultures growing yeast will start fluconazole today
   -- cover for VAP with vanco/meropenem
   -- start fluconazole today
   -- follow blood, sputum, urine, BAL cultures
   -- cont lasix gtt with goal -1L
 1.5L
   -- allow for permissive hypercapnea to initiate ventilatory
   drive
baseline PCO2 likely in 60-80 range
   -- monitor ABG
   -- SBT- not tolerated this morning, continue daily
   -- continue combivent MDIs q6h
   # Hypotension. Stable, no further episodes
   # Volume Overload. Clinically overloaded. Will attempt diuresis today
   with lasix as above
   -- cont lasix gtt.
   -- goal net -1L to 1.5L today
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Creatinine was initially trending down but  now continues
   to rise
   -- appreciate renal involvement
   -- holding on HD again today as patient is producing good urine with
   lasix
   -- follow lytes
   # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
was on CVVH now off, holding on HD for now. Will
   try to diurese today.
   # Leukocytosis
 initially resolved, but with fevers, wbc bumped from 8
   to 11 with very slight left shift.  OSH cultures showed Coag-neg staph
   on BAL [**1-25**], as well as multi-drug sensitive citrobacter and proteus in
   urine.  Stopped Vanco/Zosyn initially, but restarted given fevers. ?
   drug reaction with maculopapular rash over back with fevers. Switched
   zosyn to Meropenem as above
   -- f/u all culture dats (CVL, blood and urine cx)
   -- trend WBC count
   -- monitor fever curve
    # ? COPD flare
 begun on steroids  at OSH.
   -- weaned off ot steroids
    # DM:  not on insulin at home.
   -- cont insulin SS
   # FEN: diuresing today; TF
s at goal. Replete lytes with caution given
   renal failure.
   ICU Care
   Nutrition: cont tube feeds
   Nutren Renal (Full) - [**2193-2-6**] 06:45 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer:  lansoprazole
   VAP:  cont HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22,640,400,50,50,1);

2193-02-07 10:40:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-2-6**] 12:00 PM
 SPUTUM CULTURE - At [**2193-2-6**] 12:00 PM
 URINE CULTURE - At [**2193-2-6**] 12:00 PM
 FEVER - 102.0
F - [**2193-2-6**] 11:00 AM
   Started on lasix drip last night
   Worsened resp scidosis yesterday: Ps increased to 15/8
   TTE neg for vegetations
   Urine and sputum growing yeast
   Rash on back? due to Zosyn..switched to meropenem
   Prednisone stoppped
   Renal consult rec check cx from HD line.
   diarrhea
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2193-2-6**] 04:00 AM
   Vancomycin - [**2193-2-6**] 11:30 AM
   Meropenem - [**2193-2-7**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-2-6**] 04:00 PM
   Midazolam (Versed) - [**2193-2-6**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-2-7**] 08:23 AM
   Lansoprazole (Prevacid) - [**2193-2-7**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-7**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.3
   HR: 90 (72 - 118) bpm
   BP: 143/65(89) {91/46(60) - 165/75(105)} mmHg
   RR: 23 (7 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 23 (18 - 24)mmHg
   Total In:
                                                                  1,984 mL
                                                                    769 mL
   PO:
   TF:
                                                                    841 mL
                                                                    364 mL
   IVF:
                                                                    813 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                  1,980 mL
   Urine:
                                                                  2,200 mL
                                                                  1,980 mL
   NG:
   Stool:
                                                                     80 mL
   Drains:
   Balance:
                                                                   -296 mL
                                                                 -1,211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (463 - 524) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 24 cmH2O
   SpO2: 96%
   ABG: 7.33/45/110/27/-2
   Ve: 11.1 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: Hard to hear
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Pulses equal all 4
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Intermittent delirium
   Labs / Radiology
   8.2 g/dL
   216 K/uL
   122 mg/dL
   6.1 mg/dL
   27 mEq/L
   3.6 mEq/L
   86 mg/dL
   105 mEq/L
   144 mEq/L
   24.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2193-2-5**]  05:44 PM
                             [**2193-2-5**]  06:52 PM
                             [**2193-2-6**]  05:53 AM
                             [**2193-2-6**]  06:04 AM
                             [**2193-2-6**]  11:18 AM
                             [**2193-2-6**]  12:08 PM
                             [**2193-2-6**]  03:30 PM
                             [**2193-2-7**]  12:33 AM
                             [**2193-2-7**]  03:52 AM
                             [**2193-2-7**]  10:04 AM
   WBC
   10.7
   7.6
   Hct
   25.5
   24.7
   Plt
   222
   216
   Cr
   5.5
   6.1
   TCO2
   27
   26
   27
   25
   27
   28
   28
   25
   Glucose
   146
   122
   Other labs: PT / PTT / INR:13.5/24.5/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:83.1 %,
   Lymph:8.5 %, Mono:4.8 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:7.3 mg/dL
   Microbiology: Spu/urine: yeast with pmns
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF.
   Repsiratory failure - Metabolic acidosis.  Seemed likely to be
   hypoventilatory at first with Left lung atelactasis/ COPD flare.
   Current barriers include edema, effusion, LLL atelectasis ?new VAP,
   chest wall stiffness and wheeze. Her bronchoscopy suggested
   bronchomalacia as well.  On Vanc/Meropenem. Add fluconazole for yeast
   in sputum and urine. Follow Vanc levels. Continue diuresis.Off
   prednisone. Daily SAT/SBT. [**Month (only) 11**] need to rest on ACV if progressive
   acidosis on CPAP/ PSV. If unable to wean over weekend, will need trach
   next week.
   Fever: Abx changed as above...look for ICU causes of fever if doesnt
   respond...lines, check cdiff. TTE neg for veggies. ? drug fever...rash
   likely from zosyn which was d/ced.
    ARF - suspect ATN related to presenting illness. Try diuresis today
   and follow creat. Making a lot of urine, but Cr rising. Off CVVH. Need
   to optimize abx doses.
   Rest per resident note.
   ICU Care
   Nutrition:
   Nutrition Renal (Full) - [**2193-2-6**] 06:45 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 mins
   Patient is critically ill

2193-02-08 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-2-7**] 11:00 AM
 STOOL CULTURE - At [**2193-2-7**] 01:00 PM
   Pt started on fluconazole yest for yeast in urine and sputum
   Lasix gtt held at 3pm (pt already 2L neg - give fevers goal ~1L neg for
   day)
   Pt failed SBT became hypertensive, tachycardic, tachypnic - placed on
   AC with improvement in ABG
   Calcium acetate changed to aluminum hydroxide for phos binder
   Vanc held for level of 22
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2193-2-6**] 04:00 AM
   Vancomycin - [**2193-2-6**] 11:30 AM
   Meropenem - [**2193-2-8**] 12:07 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-7**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-8**] 12:07 AM
   Midazolam (Versed) - [**2193-2-8**] 04:30 AM
   Fentanyl - [**2193-2-8**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 87 (73 - 105) bpm
   BP: 151/68(93) {129/54(74) - 170/78(320)} mmHg
   RR: 21 (18 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 21 (17 - 28)mmHg
   Total In:
                                                                  1,773 mL
                                                                    611 mL
   PO:
   TF:
                                                                    840 mL
                                                                    260 mL
   IVF:
                                                                    783 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  4,995 mL
                                                                    920 mL
   Urine:
                                                                  4,995 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,222 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 278 (278 - 463) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   SpO2: 91%
   ABG: 7.38/44/102/24/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   8.6 g/dL
   136 mg/dL
   6.3 mg/dL
   24 mEq/L
   3.3 mEq/L
   85 mg/dL
   103 mEq/L
   145 mEq/L
   24.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2193-2-6**]  03:30 PM
                             [**2193-2-7**]  12:33 AM
                             [**2193-2-7**]  03:52 AM
                             [**2193-2-7**]  10:04 AM
                             [**2193-2-7**]  11:24 AM
                             [**2193-2-7**]  01:32 PM
                             [**2193-2-7**]  05:46 PM
                             [**2193-2-7**]  09:52 PM
                             [**2193-2-7**]  10:34 PM
                             [**2193-2-8**]  03:39 AM
   WBC
   7.6
   6.5
   Hct
   24.7
   24.4
   Plt
   216
   220
   Cr
   6.1
   6.3
   6.3
   TCO2
   28
   28
   25
   29
   28
   27
   27
   Glucose
   122
   128
   136
   Other labs: PT / PTT / INR:13.5/24.5/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:83.1 %,
   Lymph:8.5 %, Mono:4.8 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now transferred with acute renal failure, acidosis,
   and volume overload requiring CVVH.
   # Respiratory failure.  Secondary to hypercarbic respiratory failure in
   the setting of likely pneumonia.  Continued need for intubation is
   mainly related to relative metabolic acidosis in the setting of chronic
   respiratory acidosis with compensatory metabolic alkalosis; patient
   likely does not have the respiratory reserve to compensate for the acid
   load as the result of her renal failure.  Renal has recommended to
   treat with lasix to increased serum bicarbonate.  Patient was placed on
   a lasix drip with good response.  Patient continued to spike through
   vanco/zosyn and has now been broadened to Vanco/Meropenem.  Sputum and
   urine cultures growing yeast will start fluconazole today
   -- cover for VAP with vanco/meropenem
   -- start fluconazole today
   -- follow blood, sputum, urine, BAL cultures
   -- cont lasix gtt with goal -1L
 1.5L
   -- allow for permissive hypercapnea to initiate ventilatory
   drive
baseline PCO2 likely in 60-80 range
   -- monitor ABG
   -- SBT- not tolerated this morning, continue daily
   -- continue combivent MDIs q6h
   # Hypotension. Stable, no further episodes
   # Volume Overload. Clinically overloaded. Will attempt diuresis today
   with lasix as above
   -- cont lasix gtt.
   -- goal net -1L to 1.5L today
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Creatinine was initially trending down but  now continues
   to rise
   -- appreciate renal involvement
   -- holding on HD again today as patient is producing good urine with
   lasix
   -- follow lytes
   # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
was on CVVH now off, holding on HD for now. Will
   try to diurese today.
   # Leukocytosis
 initially resolved, but with fevers, wbc bumped from 8
   to 11 with very slight left shift.  OSH cultures showed Coag-neg staph
   on BAL [**1-25**], as well as multi-drug sensitive citrobacter and proteus in
   urine.  Stopped Vanco/Zosyn initially, but restarted given fevers. ?
   drug reaction with maculopapular rash over back with fevers. Switched
   zosyn to Meropenem as above
   -- f/u all culture dats (CVL, blood and urine cx)
   -- trend WBC count
   -- monitor fever curve
    # ? COPD flare
 begun on steroids  at OSH.
   -- weaned off ot steroids
    # DM:  not on insulin at home.
   -- cont insulin SS
   # FEN: diuresing today; TF
s at goal. Replete lytes with caution given
   renal failure.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-7**] 08:12 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-02-08 08:22:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure, renal failure
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-2-7**] 11:00 AM
 STOOL CULTURE - At [**2193-2-7**] 01:00 PM
   - started on fluconazole yesterday for yeast from 2 sputums and 2
   urines.
   - became tachypneic and hypercarbic on SBT
   - Lasix drip held for massive diuresis
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2193-2-6**] 04:00 AM
   Vancomycin - [**2193-2-6**] 11:30 AM
   Meropenem - [**2193-2-8**] 12:07 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-7**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-8**] 12:07 AM
   Midazolam (Versed) - [**2193-2-8**] 04:30 AM
   Fentanyl - [**2193-2-8**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-8**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 87 (73 - 105) bpm
   BP: 151/68(93) {129/54(74) - 170/78(320)} mmHg
   RR: 21 (18 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 21 (17 - 28)mmHg
   Total In:
                                                                  1,773 mL
                                                                    660 mL
   PO:
   TF:
                                                                    840 mL
                                                                    292 mL
   IVF:
                                                                    783 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  4,995 mL
                                                                    920 mL
   Urine:
                                                                  4,995 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,222 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 278 (278 - 375) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 91%
   ABG: 7.38/44/102/24/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: Hard to hear
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Pulses equal all 4
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Intermittent delirium
   Labs / Radiology
   8.6 g/dL
   220 K/uL
   136 mg/dL
   6.3 mg/dL
   24 mEq/L
   3.3 mEq/L
   85 mg/dL
   103 mEq/L
   145 mEq/L
   24.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2193-2-6**]  03:30 PM
                             [**2193-2-7**]  12:33 AM
                             [**2193-2-7**]  03:52 AM
                             [**2193-2-7**]  10:04 AM
                             [**2193-2-7**]  11:24 AM
                             [**2193-2-7**]  01:32 PM
                             [**2193-2-7**]  05:46 PM
                             [**2193-2-7**]  09:52 PM
                             [**2193-2-7**]  10:34 PM
                             [**2193-2-8**]  03:39 AM
   WBC
   7.6
   6.5
   Hct
   24.7
   24.4
   Plt
   216
   220
   Cr
   6.1
   6.3
   6.3
   TCO2
   28
   28
   25
   29
   28
   27
   27
   Glucose
   122
   128
   136
   Other labs: PT / PTT / INR:13.5/24.5/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:83.1 %,
   Lymph:8.5 %, Mono:4.8 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
    61 yo F with morbid obesity transferred from OSH where she presented
   with hypercarbic/hypoxemic respiratory failure.  Course there c/b shock
   and ARF. Now with failure to wean from vent with yeast from sputum and
   urine, ? fungemia. Off steroids.
   Repsiratory failure
 Barriers: Metabolic + resp acidosis., edema,
   effusion, LLL atelectasis ? fungal infection, chest wall stiffness and
   wheeze. Her bronchoscopy suggested bronchomalacia as well.
   - Keep I/O neg 1.5-2L
   - On Vanc/Meropenem/fluconazole. Escalate to Linezolid if does not
   defervesce. No e/o GNR. Will check for parapneumonic effusion with help
   of IP service if still febrile in 24 hrs
   - Surgery c/s for trach after d/w husband.
   - Wean to PS if possible, rest on AC at night.
   Fever: Abx as above...look for ICU causes of fever if doesnt
   respond...lines. TTE neg for veggies. ? drug fever...rash likely from
   zosyn which was d/ced. Cdiff neg. Fluc and [**Last Name (un) 1540**] on for < 48 hrs. ? Look
   for DVT if doesn
t deferevese in next few days. Call micro to speciate
   yeast.
    ARF - suspect ATN related to presenting illness. Now in post ATN
   diuretic phase. Making a lot of urine, but Cr stable. Off CVVH. Need to
   optimize abx doses to Cr clearance.
   Rest per resident note.
   ICU Care
   Nutrition:
   Nutrition Renal (Full) - [**2193-2-6**] 06:45 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: t/b with husband
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent:  45 mins
   Patient is critically ill

2193-02-09 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Continued to be febrile overnight, Tmax 101.7 yesterday.
   Lasix gtt restarted yesterday with good response.  PM Lytes came back
   with Sodium of 149 so Lasix gtt stopped.  Patient remained > 1L
   negative for the remainder of the day.
   Husband was called and issue of tracheostomy was discussed.  Husband
   stated he understood and he would come by over the weekend to discuss
   further.
   Patient on PS throughout the day.  Placed on AC overnight.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2193-2-6**] 11:30 AM
   Meropenem - [**2193-2-8**] 01:09 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-8**] 08:34 AM
   Midazolam (Versed) - [**2193-2-8**] 06:00 PM
   Fentanyl - [**2193-2-8**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-2-9**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-9**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.1
C (100.5
   HR: 87 (74 - 101) bpm
   BP: 147/67(92) {114/49(67) - 186/111(131)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 20 (14 - 23)mmHg
   Total In:
                                                                  1,830 mL
                                                                    519 mL
   PO:
   TF:
                                                                    840 mL
                                                                    246 mL
   IVF:
                                                                    680 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    925 mL
   Urine:
                                                                  2,870 mL
                                                                    625 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 285 (285 - 423) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.34/51/117/27/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Gen: intubated, sedated
   CVS: +S1/S2, +II/VII SEM LUSB, RRR
   LUNGS: CTAB, no wheezes crackles or ronchi
   ABD: +BS, NT/ND, morbidly obese
   EXT: +1 peripheral edema, +sacral edema, no c/c
   Labs / Radiology
   186 K/uL
   7.7 g/dL
   153 mg/dL
   6.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   89 mg/dL
   109 mEq/L
   150 mEq/L
   23.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2193-2-7**]  01:32 PM
                             [**2193-2-7**]  05:46 PM
                             [**2193-2-7**]  09:52 PM
                             [**2193-2-7**]  10:34 PM
                             [**2193-2-8**]  03:39 AM
                             [**2193-2-8**]  11:00 AM
                             [**2193-2-8**]  11:54 AM
                             [**2193-2-8**]  04:35 PM
                             [**2193-2-8**]  04:59 PM
                             [**2193-2-9**]  05:03 AM
   WBC
   6.5
   5.1
   Hct
   24.4
   23.6
   Plt
   220
   186
   Cr
   6.3
   6.3
   6.5
   6.5
   TCO2
   28
   27
   27
   27
   27
   29
   Glucose
   128
   136
   153
   Other labs: PT / PTT / INR:14.8/31.0/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:83.1 %,
   Lymph:8.5 %, Mono:4.8 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now transferred with acute renal failure, acidosis,
   and volume overload requiring CVVH.
   # Respiratory failure.  Secondary to hypercarbic respiratory failure in
   the setting of likely pneumonia.  She continues with the need for
   intubation due to relative metabolic acidosis in the setting of chronic
   respiratory acidosis with compensatory metabolic alkalosis.   However,
   metabolic acidosis has improved over the past 24 hours.  Plan is to
   continue with diuresis for removal of total body overload.  If she
   continues to improve then plan will be for possible extubation
   tomorrow.    If not then plan  will be for Tracheostomy on Monday.
   Husband, who is HCP was called today and will make a decision by
   Monday.
   -- cover for VAP with vanco/meropenem
   -- cont to [**Last Name (LF) **], [**First Name3 (LF) 116**] add cipro today
   -- cont  fluconazole
   -- follow blood, sputum, urine, BAL cultures
   -- cont lasix gtt with goal -1L
 1.5L
   -- monitor ABG
   -- SBT- not tolerated again this morning, continue daily
   -- continue combivent MDIs q6h
    # Volume Overload. Likely in setting of IVF resuscitation over the
   last few weeks in the ICU.  Will attempt diuresis as above
   -- cont lasix gtt.
   -- goal net -1L to 1.5L today
    # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Creatinine was initially trending down but  now continues
   to rise
   -- appreciate renal involvement
   -- follow lytes
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
was on CVVH now off, holding on HD for now. Will
   try to diurese today as above
   # Hypernatremia:  likely in setting of diuresis.  Plan is to continue
   diuresis and add 1L free water via PEG for correction of hypernatremia.
   # DM:  not on insulin at home.
   -- cont insulin SS
    # FEN: diuresing today; TF
s at goal. Replete lytes with caution given
   renal failure.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-8**] 11:25 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT:  Hep SQ
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-02-09 08:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 y/o woman with history of obesity hypoventilation admitted with
   hypoxemic + hypercarbic respiratory failure. Course complicated by ARF
   and hypotension. Please see previous notes for details.
   24 Hour Events:
 FEVER - 101.7
F - [**2193-2-8**] 08:00 AM
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2193-2-6**] 11:30 AM
   Meropenem - [**2193-2-8**] 01:09 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-8**] 08:34 AM
   Midazolam (Versed) - [**2193-2-8**] 06:00 PM
   Fentanyl - [**2193-2-8**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-2-9**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-9**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.5
   HR: 87 (74 - 101) bpm
   BP: 147/67(92) {114/49(67) - 186/111(131)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 20 (14 - 23)mmHg
   Total In:
                                                                  1,830 mL
                                                                    578 mL
   PO:
   TF:
                                                                    840 mL
                                                                    284 mL
   IVF:
                                                                    680 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    925 mL
   Urine:
                                                                  2,870 mL
                                                                    625 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 285 (285 - 423) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.34/51/117/27/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant), III/VI SEM.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   186 K/uL
   153 mg/dL
   6.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   89 mg/dL
   109 mEq/L
   150 mEq/L
   23.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2193-2-7**]  01:32 PM
                             [**2193-2-7**]  05:46 PM
                             [**2193-2-7**]  09:52 PM
                             [**2193-2-7**]  10:34 PM
                             [**2193-2-8**]  03:39 AM
                             [**2193-2-8**]  11:00 AM
                             [**2193-2-8**]  11:54 AM
                             [**2193-2-8**]  04:35 PM
                             [**2193-2-8**]  04:59 PM
                             [**2193-2-9**]  05:03 AM
   WBC
   6.5
   5.1
   Hct
   24.4
   23.6
   Plt
   220
   186
   Cr
   6.3
   6.3
   6.5
   6.5
   TCO2
   28
   27
   27
   27
   27
   29
   Glucose
   128
   136
   153
   Other labs: PT / PTT / INR:14.8/31.0/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:83.1 %,
   Lymph:8.5 %, Mono:4.8 %, Eos:3.4 %, Lactic Acid:0.5 mmol/L, Albumin:2.8
   g/dL, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   61 year old woman with obesity hypoventilation, ARF, possible VAP. Plan
   as per resident note. Briefly, on broad empiric therapy for possible
   VAP. Will add levofloxacin
   today for a second gram negative [**Doctor Last Name 23**]. Appears to be doing well on SBT
   today (RSBI ~80). Will try prolonged SBT today and check gas. If still
   febrile and not making progress
   off the vent will check CT. Continue fluc for now, awaiting speciation
   of yeast in sputm and urine. No indication for RRT at this time. Wil
   aim for some diuresis despite hypernatremia (which we will correcrt
   with free water). Further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-8**] 11:25 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2193-02-10 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Added ciprofloxacin for second gram-negative coverage
   - Became tachypneic to high 30s within 10 minutes of SBT
   - Placed on AC overnight from PS given oxygen saturations in the
   low-90s
   - CT torso and sinuses performed for fever spike to 102
 question of
   possible Colon thickening
   - Gave free water 500cc Q4H for hypernatremia
   - Attempted diuresis with lasix gtt; gave chlorothiazide 500 mg IV for
   synergy with urine output 170-300cc per hour
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-2-9**] 12:00 PM
   Meropenem - [**2193-2-10**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-9**] 08:00 AM
   Insulin - Regular - [**2193-2-9**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-2-10**] 12:23 AM
   Midazolam (Versed) - [**2193-2-10**] 04:20 AM
   Fentanyl - [**2193-2-10**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-10**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.5
C (99.5
   HR: 87 (72 - 118) bpm
   BP: 151/66(94) {106/47(64) - 176/82(111)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 21 (10 - 25)mmHg
   Total In:
                                                                  3,701 mL
                                                                  1,059 mL
   PO:
   TF:
                                                                    841 mL
                                                                    223 mL
   IVF:
                                                                    631 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                  1,585 mL
   Urine:
                                                                  1,585 mL
                                                                  1,585 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,816 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (285 - 395) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 106
   RSBI Deferred: Sao2 < 90%
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/49/96.[**Numeric Identifier 274**]/27/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: intubated, sedated
   CVS: +S1/S2, +II/VII SEM LUSB, RRR
   LUNGS: CTAB, no wheezes crackles or ronchi
   ABD: +BS, NT/ND, morbidly obese
   EXT: +1 peripheral edema, +sacral edema, no c/c
   Labs / Radiology
   200 K/uL
   7.8 g/dL
   132 mg/dL
   7.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   93 mg/dL
   107 mEq/L
   148 mEq/L
   24.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2193-2-8**]  03:39 AM
                             [**2193-2-8**]  11:00 AM
                             [**2193-2-8**]  11:54 AM
                             [**2193-2-8**]  04:35 PM
                             [**2193-2-8**]  04:59 PM
                             [**2193-2-9**]  05:03 AM
                             [**2193-2-9**]  12:20 PM
                             [**2193-2-9**]  07:26 PM
                             [**2193-2-10**]  03:55 AM
                             [**2193-2-10**]  04:15 AM
   WBC
   6.5
   5.1
   5.8
   Hct
   24.4
   23.6
   24.0
   Plt
   220
   186
   200
   Cr
   6.3
   6.5
   6.5
   7.2
   7.2
   TCO2
   27
   27
   29
   29
   29
   Glucose
   136
   153
   139
   132
   Other labs: PT / PTT / INR:14.8/31.0/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:65.3 %,
   Lymph:25.9 %, Mono:3.2 %, Eos:4.3 %, Lactic Acid:0.5 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.8
   mg/dL
[**2193-2-9**] 12:28 pm BLOOD CULTURE      Source: Line-TLC.
      Blood Culture, Routine (Pending):
[**2193-2-9**] 12:24 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2193-2-9**]):
      [**11-3**] PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
[**2193-2-9**] 12:28 pm URINE      Source: Catheter.
   URINE CULTURE (Pending):
[**2193-2-9**] 12:28 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool.
                            **FINAL REPORT [**2193-2-10**]**
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2193-2-10**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
   CT TORSO [**2-9**] -
   IMPRESSION:
   1. Dependent atelectasis bilaterally, and likely pneumonia involving
   the left
   lingula.
   2. Diffuse ground-glass opacity, which may expiratory nature, but for
   which
   infectious etiology should be considered.
   3. Multiple right upper and lower lobe pulmonary nodules, which require
   followup if no (outside) comparison study is available.
   4. Satisfactory position of tubes and lines.
   5. Mild splenomegaly.
   6. Thickened ascending colon suggesting mild colitis of uncertain
   etiology.
   Findings verbally communicated to Dr [**Last Name (STitle) 2555**] by Dr [**Last Name (STitle) 3800**].
   Assessment and Plan
   61 y.o. female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now transferred with acute renal failure, acidosis,
   and volume overload requiring CVVH.
   # Respiratory failure.  Secondary to hypercarbic respiratory failure in
   the setting of likely pneumonia.  She continues with the need for
   intubation due to relative metabolic acidosis in the setting of chronic
   respiratory acidosis with compensatory metabolic alkalosis.   However,
   metabolic acidosis has improved over the past 24 hours.  Diuresis for
   removal of total body overload. Pt failed SBT over past several days,
   considering Tracheostomy on Monday.  Husband, who is HCP was called and
   will make a decision by Monday.
   -- cover for VAP with vanco/meropenem/cipro/fluconazole
   -- SBT- not tolerated again this morning, continue daily
   -- continue combivent MDIs q6h
   -- cont lasix gtt with goal -1L
 1.5L
   -- monitor ABG
   .
   # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever now on
   Vanc/Meropenem/Cipro for planned 10 day course. Start Date [**2-5**]. Also
   on fluconazole for persistent +yeast cultures from sputum and multiple
   RF for fungal infection
   .
   # Fever
 Pt with multiple possible sources of fever including VAP,
   drug fever, pan-scan yesterday showing possible colonic thickening with
   question of early c.diff. C.diff neg X2
   -          resend C.diff, f/u culture data
   -          await final read CT scan torso and sinuses
   -          treat VAP as above
   .
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Creatinine was initially trending down but  now continues
   to rise
   -- appreciate renal involvement
   -- follow lytes
   - Pt may need HD, no urgent indication, renal following
   .
    # Volume Overload. Likely in setting of IVF resuscitation over the
   last few weeks in the ICU.  Pt is currently neg even for LOS. Will
   continue diuretics for goal even in setting of significant INs
   -- cont lasix gtt.
   -- goal net even
   .
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
was on CVVH now off, holding on HD for now.
   # Hypernatremia:  likely in setting of diuresis.  Plan is to continue
   diuresis and add 1L free water via PEG for correction of hypernatremia.
   Continue D5W IV, repeat lytes this pm
   # DM:  not on insulin at home.
   -- cont insulin SS
    # FEN: TF
s at goal. Replete lytes with caution given renal failure.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-9**] 03:58 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-02-10 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 year old woman with morbid obesity, obesity hypoventilation admitted
   with hypercarbic and hypoxemic respiratory failure. Now with persistent
   fever.
   24 Hour Events:
 PAN CULTURE - At [**2193-2-9**] 12:30 PM
 FEVER - 102.4
F - [**2193-2-9**] 02:00 PM
   CT - possible colonic thickening.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-2-9**] 12:00 PM
   Meropenem - [**2193-2-10**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Insulin - Regular - [**2193-2-9**] 12:00 PM
   Midazolam (Versed) - [**2193-2-10**] 04:20 AM
   Fentanyl - [**2193-2-10**] 04:20 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-10**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-10**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.6
   HR: 95 (72 - 118) bpm
   BP: 158/69(97) {106/47(64) - 176/82(111)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 22 (10 - 25)mmHg
   Total In:
                                                                  3,701 mL
                                                                  1,217 mL
   PO:
   TF:
                                                                    841 mL
                                                                    300 mL
   IVF:
                                                                    631 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                  2,315 mL
   Urine:
                                                                  1,585 mL
                                                                  2,315 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,816 mL
                                                                 -1,098 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 465 (355 - 465) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 106
   RSBI Deferred: Sao2 < 90%
   PIP: 21 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.37/49/96.[**Numeric Identifier 274**]/27/1
   Ve: 10.1 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : anterior, diffuse)
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   200 K/uL
   132 mg/dL
   7.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   93 mg/dL
   107 mEq/L
   148 mEq/L
   24.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2193-2-8**]  03:39 AM
                             [**2193-2-8**]  11:00 AM
                             [**2193-2-8**]  11:54 AM
                             [**2193-2-8**]  04:35 PM
                             [**2193-2-8**]  04:59 PM
                             [**2193-2-9**]  05:03 AM
                             [**2193-2-9**]  12:20 PM
                             [**2193-2-9**]  07:26 PM
                             [**2193-2-10**]  03:55 AM
                             [**2193-2-10**]  04:15 AM
   WBC
   6.5
   5.1
   5.8
   Hct
   24.4
   23.6
   24.0
   Plt
   220
   186
   200
   Cr
   6.3
   6.5
   6.5
   7.2
   7.2
   TCO2
   27
   27
   29
   29
   29
   Glucose
   136
   153
   139
   132
   Other labs: PT / PTT / INR:14.8/31.0/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:65.3 %,
   Lymph:25.9 %, Mono:3.2 %, Eos:4.3 %, Lactic Acid:0.5 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.8
   mg/dL
   Assessment and Plan
   61 year old woman with obesity hypoventilation, renal failure, and
   persistent fever. CT yesterday with two possible sources, some
   consolidation on L as well as atelectasis and sig. mucous
   in airways. No endobronchial lesions noted on bronch [**1-30**]. Also
   possible colonic thickening so will add flagyl and check c. diff again.
   On vanc/[**Last Name (un) **]/cipro which we will continue for a total 10 day course.
   Failing SBT's , we have been diuresing but LOS fluid balance is
   actually negative,  BUN/Cr are both elevated and she has hypernatremia.
   Some wheezes today-we will maximize bronchodilators and consider a
   short course of steroids if not improving.   Will discuss possibility
   of trach with husband. Further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-9**] 03:58 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: will meet with family today
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-02-11 07:37:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 EKG - At [**2193-2-11**] 12:21 AM
   patient rate to 120-130, ekg SVT with variable block
 EKG - At [**2193-2-11**] 06:14 AM
 FEVER - 101.9
F - [**2193-2-10**] 11:17 AM
   .
   Pt 2L neg, lasix stopped last pm, pt developed sinus tach to 120s-130s,
   no ECG  changes
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-2-9**] 12:00 PM
   Meropenem - [**2193-2-11**] 12:46 AM
   Metronidazole - [**2193-2-11**] 12:46 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2193-2-11**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-11**] 12:46 AM
   Midazolam (Versed) - [**2193-2-11**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.2
   HR: 117 (77 - 117) bpm
   BP: 135/60(84) {105/48(65) - 161/72(100)} mmHg
   RR: 24 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 15 (13 - 21)mmHg
   Total In:
                                                                  4,931 mL
                                                                  2,697 mL
   PO:
   TF:
                                                                    840 mL
                                                                    264 mL
   IVF:
                                                                  1,501 mL
                                                                  1,308 mL
   Blood products:
   Total out:
                                                                  6,750 mL
                                                                  2,040 mL
   Urine:
                                                                  6,750 mL
                                                                  1,840 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,819 mL
                                                                    657 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 456 (406 - 522) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 12.2 L/min
   Physical Examination
   Gen: intubated, sedated
   CVS: +S1/S2, tachycardic, II/VI SEM LUSB
   ABD: +BS, NT/ND, obese
   LUNGS: CTAB anterior lung fields
   EXT: +1 peripheral edema, no c/c
   Labs / Radiology
   210 K/uL
   7.8 g/dL
   129 mg/dL
   7.0 mg/dL
   31 mEq/L
   3.1 mEq/L
   90 mg/dL
   100 mEq/L
   143 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2193-2-8**]  11:54 AM
                             [**2193-2-8**]  04:35 PM
                             [**2193-2-8**]  04:59 PM
                             [**2193-2-9**]  05:03 AM
                             [**2193-2-9**]  12:20 PM
                             [**2193-2-9**]  07:26 PM
                             [**2193-2-10**]  03:55 AM
                             [**2193-2-10**]  04:15 AM
                             [**2193-2-10**]  04:55 PM
                             [**2193-2-11**]  02:20 AM
   WBC
   5.1
   5.8
   5.7
   Hct
   23.6
   24.0
   24.3
   Plt
   186
   200
   210
   Cr
   6.5
   6.5
   7.2
   7.2
   7.0
   7.0
   TCO2
   27
   29
   29
   29
   Glucose
   153
   139
   132
   148
   129
   Other labs: PT / PTT / INR:14.8/31.0/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:65.3 %,
   Lymph:25.9 %, Mono:3.2 %, Eos:4.3 %, Lactic Acid:0.5 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:7.2
   mg/dL
   CT Chest/ABD/Pelvis w/o contrast:
   IMPRESSION:
   1. Dependent atelectasis bilaterally, and likely pneumonia involving
   the left
   lingula.
   2. Diffuse ground-glass opacity, which may expiratory nature, but for
   which
   infectious etiology should be considered.
   3. Multiple right upper and lower lobe pulmonary nodules, which require
   followup if no (outside) comparison study is available.
   4. Satisfactory position of tubes and lines.
   5. Mild splenomegaly.
   6. Thickened ascending colon suggesting mild colitis of uncertain
   etiology.
   Findings verbally communicated to Dr [**Last Name (STitle) 2555**] by Dr [**Last Name (STitle) 3800**].
   Assessment and Plan
   61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, continued fevers despite broad spectrum
   coverage.
   # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient has now been intubated for > 2weeks and plan is for
   likely tracheostomy tomorrow.  CT [**Doctor First Name **] has been consulted as patient is
   morbidly obese and will require surgical tracheostomy.   She is
   currently on Vanco/[**Last Name (un) 1540**]/Cipro for presumed PNA.  However, sputum
   cultures, BAL, blood cultures have remained negative for MRSA or gram
   organisms.  Sputum and Urine cultures have grown Yeast so Fluconazole
   was started last week.
   -- cover for VAP with vanco/meropenem/cipro/fluconazole
   -- SBT- not tolerated again this morning, continue daily
   -- continue combivent MDIs q6h
   -- monitor ABG
   # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever now on
   Vanc/Meropenem/Cipro for planned 10 day course. Start Date [**2-5**]. Also
   on fluconazole for persistent +yeast cultures from sputum and multiple
   RF for fungal infection.  CT chest shows multiple pulmonary nodules in
   right lung along with left lingular consolidation
   -- cont abx as above
   -- send glucan, galactogamman for ?Aspergillus
   # Fever
 Pt with multiple possible sources of fever including VAP,
   drug fever with drug fevers seeming more likely at this point.  CT scan
   done over the weekend shows possible colonic thickening with question
   of early c.diff. C.diff neg X2.  ?Aspergillus given nodules in lung.
   -    f/u third C.diff for ?c.diff
   -    treat VAP as above
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr stable at 7.0.  [**Month (only) 11**] require dialysis in the coming days
   -- appreciate renal involvement
   -- follow lytes
   - Pt may need HD, no urgent indication, renal following
    # Volume Overload. Has been diuresed well over the weekend.
   Currently seems intravascularly depleted given tachycardia and low
   CVP.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
was on CVVH now off, holding on HD for now.
    # DM:  not on insulin at home.
   -- cont insulin SS
    # FEN: TF
s at goal. Replete lytes with caution given renal failure.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-10**] 08:31 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status : Full code
   Disposition  :ICU

2193-02-11 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues fever over weekend
   24 Hour Events:
 EKG - At [**2193-2-11**] 12:21 AM
   patient rate to 120-130, ekg SVT with variable block
 EKG - At [**2193-2-11**] 06:14 AM
 FEVER - 101.9
F - [**2193-2-10**] 11:17 AM
   Diuresing with free water for hyperNa. 2 L neg. ST to 130 with it.
   Minimal secretions.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-2-9**] 12:00 PM
   Meropenem - [**2193-2-11**] 12:46 AM
   Metronidazole - [**2193-2-11**] 12:46 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2193-2-11**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-11**] 12:46 AM
   Midazolam (Versed) - [**2193-2-11**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-11**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.1
C (100.6
   HR: 100 (77 - 137) bpm
   BP: 151/88(108) {105/48(65) - 162/88(108)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 13 (13 - 29)mmHg
   Total In:
                                                                  4,931 mL
                                                                  3,390 mL
   PO:
   TF:
                                                                    840 mL
                                                                    352 mL
   IVF:
                                                                  1,501 mL
                                                                  1,353 mL
   Blood products:
   Total out:
                                                                  6,750 mL
                                                                  2,940 mL
   Urine:
                                                                  6,750 mL
                                                                  2,740 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,819 mL
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (406 - 522) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.36/50/128/31/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: fluctuates, getting prn boluses
   Labs / Radiology
   7.8 g/dL
   210 K/uL
   129 mg/dL
   7.0 mg/dL
   31 mEq/L
   3.1 mEq/L
   90 mg/dL
   100 mEq/L
   143 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2193-2-8**]  04:35 PM
                             [**2193-2-8**]  04:59 PM
                             [**2193-2-9**]  05:03 AM
                             [**2193-2-9**]  12:20 PM
                             [**2193-2-9**]  07:26 PM
                             [**2193-2-10**]  03:55 AM
                             [**2193-2-10**]  04:15 AM
                             [**2193-2-10**]  04:55 PM
                             [**2193-2-11**]  02:20 AM
                             [**2193-2-11**]  08:50 AM
   WBC
   5.1
   5.8
   5.7
   Hct
   23.6
   24.0
   24.3
   Plt
   186
   200
   210
   Cr
   6.5
   6.5
   7.2
   7.2
   7.0
   7.0
   TCO2
   29
   29
   29
   29
   Glucose
   153
   139
   132
   148
   129
   Other labs: PT / PTT / INR:14.8/31.0/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:26/14, Alk Phos / T Bili:78/0.5, Differential-Neuts:65.3 %,
   Lymph:25.9 %, Mono:3.2 %, Eos:4.3 %, Lactic Acid:0.5 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:7.2
   mg/dL
   Imaging: CT [**Last Name (un) 42**]: ? colonic thickening
   Microbiology: cdiff: neg
   Spu: sparse [**Female First Name (un) 444**]
   Urine: yeast
   blood cxs: neg
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old woman with obesity hypoventilation, renal failure off CVVH,
   and persistent fever not associated with sepsis.
   DD: fungal infection (yeast in 2 sources on Fluc), cdiff (started
   Flagyl yesterday), drug fever (high eos count), atypical fungal
   infection (GGO and nodules on CT lung)
   On Vanc/Cipro/[**Last Name (un) 1540**]/flagyl/Fluc...would prefer to wean off cipro, but
   wait for ID consult today. Continue pancxs. Watch lines. ? Repeat BAL.
   Check sinus CT results. Repat UA and UCx to make sure its clearing.
   Check glucan/galactomannan.
   Consider stopping anti-microbials. Check LENI
   Hypercarbic resp failure: multiple etiologies. Check TSH. Continue with
   slow PS wean. Thoracic Surgery for a surgical trach and PEG.
   Renal: Cr trailed off at 7.0. ? Dialysis. Good U/O.
   I/O: even due to tachycardia with diuresis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-10**] 08:31 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Daily wake up, RSBI
   Comments:
   Communication:  Comments: D/w husband
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2193-02-12 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2193-2-11**] 08:17 AM
   , ekg SVT ,hr 110-160
 URINE CULTURE - At [**2193-2-11**] 11:04 AM
 ULTRASOUND - At [**2193-2-11**] 01:30 PM
   LENI to r/o DVT
 FEVER - 101.1
F - [**2193-2-11**] 12:00 PM
   Brief episode of hypotension yesterday with SBP to 80s.  She was given
   1L NS bolus and Levophed was started.  Levophed was quickly weaned in
   10min.  BP remained stable after fluid bolus.  1u PRBC was transfused
   for treatment of hypotension/anemia.
   ID consulted for ?fevers. Recommended to D/C all antibiotics.
   Vanco/[**Last Name (un) 1540**]/Cipro/Flagyl were discontined. Fluconazole kept for presumed
   fungal infection.
   Surgery consulted for trach and PEG.  Patient was NPO at MN, procedure
   to be done today.
   LENIS done for fever workup and was negative.
   CT sinus still pending.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2193-2-11**] 12:46 AM
   Ciprofloxacin - [**2193-2-11**] 12:11 PM
   Fluconazole - [**2193-2-11**] 12:11 PM
   Meropenem - [**2193-2-12**] 12:21 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-12**] 12:20 AM
   Midazolam (Versed) - [**2193-2-12**] 04:30 AM
   Fentanyl - [**2193-2-12**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-12**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.5
   HR: 92 (78 - 137) bpm
   BP: 131/60(84) {94/40(55) - 162/88(108)} mmHg
   RR: 26 (19 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (7 - 29)mmHg
   Mixed Venous O2% Sat: 93 - 93
   Total In:
                                                                  6,828 mL
                                                                    254 mL
   PO:
   TF:
                                                                    840 mL
                                                                     35 mL
   IVF:
                                                                  2,717 mL
                                                                    219 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  6,070 mL
                                                                  1,160 mL
   Urine:
                                                                  5,870 mL
                                                                  1,160 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    758 mL
                                                                   -906 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (428 - 510) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: 7.36/54/123/30/3
   Ve: 11.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Gen: intubated, sedated
   CVS: +S1/S2, tachycardic, II/VI SEM LUSB
   ABD: +BS, NT/ND, obese
   LUNGS: CTAB anterior lung fields
   EXT: +1 peripheral edema, no c/c
   SKIN: macular erythematous rash extending onto neck, torso and upper
   thighs from back.
   Labs / Radiology
   218 K/uL
   8.4 g/dL
   126 mg/dL
   6.4 mg/dL
   30 mEq/L
   3.4 mEq/L
   85 mg/dL
   98 mEq/L
   141 mEq/L
   25.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2193-2-9**]  12:20 PM
                             [**2193-2-9**]  07:26 PM
                             [**2193-2-10**]  03:55 AM
                             [**2193-2-10**]  04:15 AM
                             [**2193-2-10**]  04:55 PM
                             [**2193-2-11**]  02:20 AM
                             [**2193-2-11**]  08:50 AM
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
   WBC
   5.8
   5.7
   5.5
   Hct
   24.0
   24.3
   25.7
   Plt
   200
   210
   218
   Cr
   7.2
   7.2
   7.0
   7.0
   6.6
   6.4
   TCO2
   29
   29
   29
   32
   Glucose
   139
   132
   148
   129
   149
   126
   Other labs: PT / PTT / INR:14.3/33.0/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**10-20**], Alk Phos / T Bili:55/0.5, Differential-Neuts:68.0 %,
   Lymph:23.8 %, Mono:2.7 %, Eos:4.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:6.0
   mg/dL
   MICRO:
   [1][**2193-2-11**]
   URINE
   URINE CULTURE-PENDING
   [2][**2193-2-10**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [3][**2193-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2193-2-9**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   [5][**2193-2-9**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [6][**2193-2-9**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [7][**2193-2-9**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [8][**2193-2-7**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [9][**2193-2-7**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [10][**2193-2-7**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [11][**2193-2-7**]
   BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
   BLOOD/FUNGAL CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY
   [12][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [13][**2193-2-6**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {[**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3840**]}
   [14][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [15][**2193-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [16][**2193-2-6**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [17][**2193-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [18][**2193-2-4**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [19][**2193-2-4**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [20][**2193-2-4**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [21][**2193-2-1**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   [22][**2193-2-1**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [23][**2193-2-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   [24][**2193-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [25][**2193-2-1**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [26][**2193-2-1**]
   URINE
   URINE CULTURE-FINAL
   IMAGING
   LENIS: IMPRESSION: Slightly limited exam as described in the distal
   superficial
   femoral vein just above the knee bilaterally. No intraluminal thrombus
   identified.
   Assessment and Plan
   61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, course c/b difficulty to wean and
   persistent fevers.
   # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient has now been intubated for > 2weeks and plan is for
   likely tracheostomy/peg today.  Patient has been d/c
d from all
   antibiotics, but continues on fluconazole. However, sputum cultures,
   BAL, blood cultures have remained negative for MRSA or gram
   organisms.
   -- trach today, will need extended vent rehab
   -- continue combivent MDIs q6h
   # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever and was
   transitioned to Vanc/Meropenem/Cipro. ID felt that her persistent
   fevers were likely secondary to drug fever and these medications were
   all d/c
d [**2-11**].  Will continue on fluconazole for persistent +yeast
   cultures from sputum and multiple RF for fungal infection.  CT chest
   shows multiple pulmonary nodules in right lung along with left lingular
   consolidation.
   -- cont fluconazole.
   -- glucan, galactomannan for ?Aspergillus are pending
   # Fever
 Pt with multiple possible sources of fever including VAP,
   drug fever with drug fevers seeming more likely at this point.  CT scan
   done over the weekend showed possible colonic thickening with question
   of early c.diff, but she is C.diff neg X4.  ?Aspergillus given nodules
   in lung.
   -    treat VAP as above
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr trending down to 6.4.  At this point, will likely not
   need HD, so ?pulling catheter and sending for culture.
   -- appreciate renal involvement
   -- follow lytes
    # Volume Overload. Has been diuresed well over the weekend.   Briefly
   had hypotension yesterday that was fluid responsive.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
 patient
s ABG
s have improved with diuresis.
   Currently appear to where she likely is at baseline with chronic
   respiratory acidosis and metabolic compensation.
    # DM:  not on insulin at home.
   -- cont insulin SS
    # FEN: TF
s at goal. Replete lytes with caution given renal failure
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:  ordering picc
 will pull the following lines as able:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer:  ppi
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22,640,400,50,50,1);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22,640,400,50,50,1);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22,640,400,50,50,1);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22,640,400,50,50,1);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22,640,400,50,50,1);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22,640,400,50,50,1);
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22,640,400,50,50,1);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22,640,400,50,50,1);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22,640,400,50,50,1);
  26. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22,640,400,50,50,1);

2193-02-12 08:14:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2193-2-11**] 08:17 AM
   , ekg SVT ,hr 110-160
 URINE CULTURE - At [**2193-2-11**] 11:04 AM
 ULTRASOUND - At [**2193-2-11**] 01:30 PM
   LENI to r/o DVT
 FEVER - 101.1
F - [**2193-2-11**] 12:00 PM
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2193-2-11**] 12:46 AM
   Ciprofloxacin - [**2193-2-11**] 12:11 PM
   Fluconazole - [**2193-2-11**] 12:11 PM
   Meropenem - [**2193-2-12**] 12:21 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-12**] 12:20 AM
   Midazolam (Versed) - [**2193-2-12**] 04:30 AM
   Fentanyl - [**2193-2-12**] 04:30 AM
   Lansoprazole (Prevacid) - [**2193-2-12**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-12**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 94 (78 - 100) bpm
   BP: 141/64(88) {94/40(55) - 156/88(108)} mmHg
   RR: 23 (19 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 12 (7 - 17)mmHg
   Mixed Venous O2% Sat: 93 - 93
   Total In:
                                                                  6,828 mL
                                                                    282 mL
   PO:
   TF:
                                                                    840 mL
                                                                     35 mL
   IVF:
                                                                  2,717 mL
                                                                    247 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  6,070 mL
                                                                  1,510 mL
   Urine:
                                                                  5,870 mL
                                                                  1,510 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    758 mL
                                                                 -1,228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (428 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.36/54/123/30/3
   Ve: 11.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: fluctuates, getting prn boluses
   Labs / Radiology
   8.4 g/dL
   218 K/uL
   126 mg/dL
   6.4 mg/dL
   30 mEq/L
   3.4 mEq/L
   85 mg/dL
   98 mEq/L
   141 mEq/L
   25.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2193-2-9**]  12:20 PM
                             [**2193-2-9**]  07:26 PM
                             [**2193-2-10**]  03:55 AM
                             [**2193-2-10**]  04:15 AM
                             [**2193-2-10**]  04:55 PM
                             [**2193-2-11**]  02:20 AM
                             [**2193-2-11**]  08:50 AM
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
   WBC
   5.8
   5.7
   5.5
   Hct
   24.0
   24.3
   25.7
   Plt
   200
   210
   218
   Cr
   7.2
   7.2
   7.0
   7.0
   6.6
   6.4
   TCO2
   29
   29
   29
   32
   Glucose
   139
   132
   148
   129
   149
   126
   Other labs: PT / PTT / INR:14.3/33.0/1.2, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**10-20**], Alk Phos / T Bili:55/0.5, Differential-Neuts:68.0 %,
   Lymph:23.8 %, Mono:2.7 %, Eos:4.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:6.0
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old woman with obesity hypoventilation, renal failure off CVVH,
   and persistent fever not associated with sepsis.
   DD: fungal infection (yeast in 2 sources on Fluc), cdiff (started
   Flagyl yesterday), drug fever (high eos count), atypical fungal
   infection (GGO and nodules on CT lung)
   On Vanc/Cipro/[**Last Name (un) 1540**]/flagyl/Fluc...would prefer to wean off cipro, but
   wait for ID consult today. Continue pancxs. Watch lines. ? Repeat BAL.
   Check sinus CT results. Repat UA and UCx to make sure its clearing.
   Check glucan/galactomannan.
   Consider stopping anti-microbials. Check LENI
   Hypercarbic resp failure: multiple etiologies. Check TSH. Continue with
   slow PS wean. Thoracic Surgery for a surgical trach and PEG.
   Renal: Cr trailed off at 7.0. ? Dialysis. Good U/O.
   I/O: even due to tachycardia with diuresis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-10**] 08:31 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Dialysis Catheter - [**2193-2-2**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Daily wake up, RSBI
   Comments:
   Communication:  Comments: D/w husband
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2193-02-13 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2193-2-12**] 12:00 PM
 PEG INSERTION - At [**2193-2-12**] 03:40 PM
   pt sent to OR at 1540 hrs
 PERCUTANEOUS TRACHEOSTOMY - At [**2193-2-12**] 03:40 PM
   OR for trach and peg placement
   Pressure to 80's overnight, gave 1L NS bolus, with good response.
   Initially on rate upon return from OR. Then transitioned to 18/12.
   Aline dislodged.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2193-2-11**] 12:46 AM
   Ciprofloxacin - [**2193-2-11**] 12:11 PM
   Fluconazole - [**2193-2-11**] 12:11 PM
   Meropenem - [**2193-2-12**] 12:21 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-12**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 88 (75 - 105) bpm
   BP: 115/43(61) {69/31(43) - 162/72(97)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (8 - 241)mmHg
   Total In:
                                                                    512 mL
                                                                  1,103 mL
   PO:
   TF:
                                                                     35 mL
   IVF:
                                                                    437 mL
                                                                  1,103 mL
   Blood products:
   Total out:
                                                                  2,586 mL
                                                                    490 mL
   Urine:
                                                                  2,586 mL
                                                                    310 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,074 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 450 (364 - 478) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 99%
   ABG: 7.31/55/91/25/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   8.5 g/dL
   112 mg/dL
   6.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   86 mg/dL
   102 mEq/L
   144 mEq/L
   26.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2193-2-10**]  04:15 AM
                             [**2193-2-10**]  04:55 PM
                             [**2193-2-11**]  02:20 AM
                             [**2193-2-11**]  08:50 AM
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
   WBC
   5.7
   5.5
   5.6
   Hct
   24.3
   25.7
   26.7
   Plt
   [**Telephone/Fax (3) 3851**]
   Cr
   7.0
   7.0
   6.6
   6.4
   6.2
   6.5
   TCO2
   29
   29
   32
   29
   Glucose
   148
   129
   149
   126
   105
   112
   Other labs: PT / PTT / INR:14.9/33.1/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**10-20**], Alk Phos / T Bili:55/0.5, Differential-Neuts:77.0 %,
   Lymph:14.5 %, Mono:3.2 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:6.6
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, course c/b difficulty to wean and
   persistent fevers.
   # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient has now been intubated for > 2weeks and plan is for
   likely tracheostomy/peg today.  Patient has been d/c
d from all
   antibiotics, but continues on fluconazole. However, sputum cultures,
   BAL, blood cultures have remained negative for MRSA or gram
   organisms.
   -- trach today, will need extended vent rehab
   -- continue combivent MDIs q6h
   # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever and was
   transitioned to Vanc/Meropenem/Cipro. ID felt that her persistent
   fevers were likely secondary to drug fever and these medications were
   all d/c
d [**2-11**].  Will continue on fluconazole for persistent +yeast
   cultures from sputum and multiple RF for fungal infection.  CT chest
   shows multiple pulmonary nodules in right lung along with left lingular
   consolidation.
   -- cont fluconazole.
   -- glucan, galactomannan for ?Aspergillus are pending
   # Fever
 Pt with multiple possible sources of fever including VAP,
   drug fever with drug fevers seeming more likely at this point.  CT scan
   done over the weekend showed possible colonic thickening with question
   of early c.diff, but she is C.diff neg X4.  ?Aspergillus given nodules
   in lung.
   -    treat VAP as above
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr trending down to 6.4.  At this point, will likely not
   need HD, so ?pulling catheter and sending for culture.
   -- appreciate renal involvement
   -- follow lytes
    # Volume Overload. Has been diuresed well over the weekend.   Briefly
   had hypotension yesterday that was fluid responsive.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
 patient
s ABG
s have improved with diuresis.
   Currently appear to where she likely is at baseline with chronic
   respiratory acidosis and metabolic compensation.
    # DM:  not on insulin at home.
   -- cont insulin SS
    # FEN: TF
s at goal. Replete lytes with caution given renal failure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-02-13 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2193-2-12**] 12:00 PM
 PEG INSERTION - At [**2193-2-12**] 03:40 PM
   pt sent to OR at 1540 hrs
 PERCUTANEOUS TRACHEOSTOMY - At [**2193-2-12**] 03:40 PM
   OR for trach and peg placement
   PS 18/12 overnight for comfort
   SBP 80s, responded well to fluids
   Afebrile
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2193-2-11**] 12:46 AM
   Ciprofloxacin - [**2193-2-11**] 12:11 PM
   Fluconazole - [**2193-2-11**] 12:11 PM
   Meropenem - [**2193-2-12**] 12:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-13**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 87 (75 - 105) bpm
   BP: 97/41(55) {86/29(42) - 135/54(73)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 13 (8 - 241)mmHg
   Total In:
                                                                    512 mL
                                                                  1,131 mL
   PO:
   TF:
                                                                     35 mL
   IVF:
                                                                    437 mL
                                                                  1,131 mL
   Blood products:
   Total out:
                                                                  2,586 mL
                                                                    490 mL
   Urine:
                                                                  2,586 mL
                                                                    310 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,074 mL
                                                                    641 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (364 - 600) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 97%
   ABG: 7.32/52/155/25/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   261 K/uL
   112 mg/dL
   6.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   86 mg/dL
   102 mEq/L
   144 mEq/L
   26.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2193-2-10**]  04:55 PM
                             [**2193-2-11**]  02:20 AM
                             [**2193-2-11**]  08:50 AM
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
   WBC
   5.7
   5.5
   5.6
   Hct
   24.3
   25.7
   26.7
   Plt
   [**Telephone/Fax (3) 3851**]
   Cr
   7.0
   7.0
   6.6
   6.4
   6.2
   6.5
   TCO2
   29
   32
   29
   28
   Glucose
   148
   129
   149
   126
   105
   112
   Other labs: PT / PTT / INR:14.9/33.1/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**10-20**], Alk Phos / T Bili:55/0.5, Differential-Neuts:77.0 %,
   Lymph:14.5 %, Mono:3.2 %, Eos:4.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:6.6
   mg/dL
   Imaging: CXR: LLL atelectasis
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  warm
   Neurologic: fluctuates, getting prn boluses
   61 year old woman with obesity hypoventilation, renal failure off CVVH,
   and persistent fever not associated with sepsis. Likely related to drug
   fever with new developing rash and eosinophils on Zosyn/Meropenem. Off
   all abx, except fluconazole for yeast in sputum and urine x 7 days.
   Cdiff neg. Consider atypical fungal infection (GGO and nodules on CT
   lung). LENIs neg.
   Hypercarbic resp failure: s/p trach and peg...wake up and wean vent.
   Metabolic acidosis: check lactate
   Renal: Cr stabilized 6.5. Good U/O autodiuresing. Replace K and follow
   levels. Keep I/O  even
   s/p peg: start feeds when able
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2193-1-31**] 11:12 PM
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Comments: picc consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2193-02-14 07:03:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   Pt spiked temp to 102.5, pan-cultured
 FEVER - 102.5
F - [**2193-2-13**] 08:00 PM
   Weaned down to 15/8
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-2-11**] 12:11 PM
   Meropenem - [**2193-2-12**] 12:21 AM
   Fluconazole - [**2193-2-13**] 10:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-13**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-14**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-14**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.6
C (99.7
   HR: 81 (80 - 112) bpm
   BP: 99/45(55) {84/34(43) - 169/71(79)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 5 (5 - 14)mmHg
   Total In:
                                                                  2,305 mL
                                                                    762 mL
   PO:
   TF:
                                                                    228 mL
                                                                    246 mL
   IVF:
                                                                  1,777 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    535 mL
   Urine:
                                                                  1,485 mL
                                                                    535 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                    490 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (412 - 600) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 29 cmH2O
   SpO2: 95%
   ABG: 7.32/52/155/28/0
   Ve: 8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   278 K/uL
   7.9 g/dL
   135 mg/dL
   6.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   85 mg/dL
   104 mEq/L
   146 mEq/L
   24.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2193-2-11**]  08:50 AM
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
   WBC
   5.5
   5.6
   6.0
   Hct
   25.7
   26.7
   24.5
   Plt
   [**Telephone/Fax (3) 3877**]
   Cr
   6.6
   6.4
   6.2
   6.5
   6.3
   6.1
   TCO2
   29
   32
   29
   28
   Glucose
   149
   126
   105
   112
   133
   135
   Other labs: PT / PTT / INR:17.5/34.7/1.6, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**10-20**], Alk Phos / T Bili:55/0.5, Differential-Neuts:75.5 %,
   Lymph:17.4 %, Mono:1.9 %, Eos:4.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.6
   mg/dL
   Assessment and Plan
    61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, course c/b difficulty to wean and
   persistent fevers.
   # Rash:  Patient has had a maculopapular, blanching, coalescing rash
   for one week.  Rash has spread from her back to her entire body.
   Concern is for drug rash given appearance of rash along with continued
   fevers.  Dermatology has been consulted for evaluation.
   - f/u derm consult
   - start Benadryl
   - Haldol PRN for agitation
   - Sarna lotion
   - Start Triamcinolone 0.1% lotion
    # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient was  intubated for > 2weeks and went for
   tracheostomy/peg placement on [**2-12**] which went well.  Patient has been
   d/c
d from all antibiotics.  Sputum cultures, BAL, blood cultures have
   remained negative for MRSA or gram
 organisms.
   -- wean PS today to previous levels of 12 of PS and 5 of PEEP
   -- continue combivent MDIs q6h
    # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever and was
   transitioned to Vanc/Meropenem/Cipro. ID felt that her persistent
   fevers were likely secondary to drug fever and these medications were
   all d/c
d [**2-11**].  Fluconazole has also been discontinued.  CT chest shows
   multiple pulmonary nodules in right lung along with left lingular
   consolidation.  She should have a repeat CT Chest to look for
   resolution of her pulmonary nodules.
   -- cont to monitor
    # Fever
  At this point, most likely [**2-11**] drug fever as patient has
   remained with a normal WBC count and cultures have remained negative.
   Antiobiotics have been discontinued as above.  Rash is now extending
   from her back towards her abdomen,  If rash continues to spread then
   will consider derm consult.
   -- monitor rash
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr stable at 6.2 today and she has excellent Urine
   Output.  Renal has been following and have now removed her HD
   catheter.
   -- appreciate renal involvement
   -- follow lytes
    # Volume Overload. Currently slightly overloaded but given rash and
   fevers will not diurese today.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
  metabolic acidosis normalized, will cont to
   monitor
   -- monitor lytes
    # DM:  not on insulin at home.
   -- cont insulin SS
     # FEN: cont TF. Replete lytes with caution given renal failure
   ICU Care
   Nutrition: TF
   Nutren Renal (Full) - [**2193-2-13**] 05:30 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Prophylaxis:
   DVT:  Hep SQ
   Stress ulcer:  ppi
   VAP:  on trach
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-02-14 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2193-2-13**] 10:21 AM
 BLOOD CULTURED - At [**2193-2-13**] 08:14 PM
 SPUTUM CULTURE - At [**2193-2-14**] 12:49 AM
 FEVER - 102.5
F - [**2193-2-13**] 08:00 PM
   Still febrile, rash worse, likely related to abx, PS weaned to 15/8,
   pancxed
   Sedated due to restlessness. c/o being itchy over rash.
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-2-11**] 12:11 PM
   Meropenem - [**2193-2-12**] 12:21 AM
   Fluconazole - [**2193-2-13**] 10:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-14**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-14**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.2
C (98.9
   HR: 98 (80 - 112) bpm
   BP: 127/55(72) {96/34(48) - 169/59(79)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 14 (5 - 14)mmHg
   Total In:
                                                                  2,305 mL
                                                                  1,299 mL
   PO:
   TF:
                                                                    228 mL
                                                                    380 mL
   IVF:
                                                                  1,777 mL
                                                                    818 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    855 mL
   Urine:
                                                                  1,485 mL
                                                                    855 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                    490 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 570 (412 - 570) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 29 cmH2O
   SpO2: 97%
   ABG: 7.34/52/43 VBG
   Ve: 13.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  warm, erythema extending over torso and neck and face
   Neurologic: fluctuates, getting prn sedation
   Labs / Radiology
   7.9 g/dL
   278 K/uL
   135 mg/dL
   6.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   85 mg/dL
   104 mEq/L
   146 mEq/L
   24.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2193-2-11**]  08:50 AM
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
   WBC
   5.5
   5.6
   6.0
   Hct
   25.7
   26.7
   24.5
   Plt
   [**Telephone/Fax (3) 3877**]
   Cr
   6.6
   6.4
   6.2
   6.5
   6.3
   6.1
   TCO2
   29
   32
   29
   28
   Glucose
   149
   126
   105
   112
   133
   135
   Other labs: PT / PTT / INR:17.5/34.7/1.6, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**10-20**], Alk Phos / T Bili:55/0.5, Differential-Neuts:75.5 %,
   Lymph:17.4 %, Mono:1.9 %, Eos:4.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:356 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.6
   mg/dL
   Fluid analysis / Other labs: UA [**6-19**] WBC
   Spu cx: no orgms on stain
   Imaging: CXR: stable LLL atelectasis
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old woman with obesity hypoventilation, renal failure off CVVH,
   and persistent fever not associated with sepsis. Likely related to drug
   fever with worsening rash and eosinophils. All abx off.
   New fever with worsening rash: likely drug related
off all abx
derm c/s
   for biopsy. Give benadryl/hydroxizine for itching. Move quickly on picc
   line today to d/c central.
   Agitation: d/c sedation, use seroquel and haldol for agitation
   Vent: Continue wean.
   Renal: Cr decreasing. Good U/O autodiuresing. Replace K and follow
   levels. Keep I/O even
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-13**] 05:30 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: In touch with husband.
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent:

2193-02-15 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2193-2-14**] 12:00 PM
   Dermatology consulted yesterday and agree that the rash is a drug
   hypersensitivity rash.  Recommended Triamcinolone cream 0.1%, Benadryl
   and Sarna.  Rash may take 2-3 weeks to improve.
   Febrile again overnight.
   PICC not placed, PICC RN refused [**2-11**] fever.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2193-2-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-15**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.8
C (101.8
   HR: 85 (85 - 112) bpm
   BP: 100/36(52) {99/32(52) - 150/65(79)} mmHg
   RR: 22 (21 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 14 (9 - 18)mmHg
   Total In:
                                                                  2,120 mL
                                                                    320 mL
   PO:
   TF:
                                                                    840 mL
                                                                    249 mL
   IVF:
                                                                    950 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                  1,120 mL
   Urine:
                                                                  1,835 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                   -801 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (395 - 570) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   SpO2: 94%
   ABG: ///29/
   Ve: 12.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   7.7 g/dL
   189 mg/dL
   5.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   83 mg/dL
   109 mEq/L
   149 mEq/L
   24.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
                             [**2193-2-15**]  04:51 AM
   WBC
   5.5
   5.6
   6.0
   6.9
   Hct
   25.7
   26.7
   24.5
   24.3
   Plt
   [**Telephone/Fax (3) 3931**]86
   Cr
   6.6
   6.4
   6.2
   6.5
   6.3
   6.1
   5.6
   TCO2
   32
   29
   28
   Glucose
   149
   126
   105
   112
   133
   135
   189
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**7-20**], Alk Phos / T Bili:53/0.4, Differential-Neuts:75.5 %,
   Lymph:17.4 %, Mono:1.9 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.9 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, course c/b difficulty to wean and
   persistent fevers.
   # Rash:  Patient has had a maculopapular, blanching, coalescing rash
   for one week.  Rash has spread from her back to her entire body.
   Concern is for drug rash given appearance of rash along with continued
   fevers.  Dermatology has been consulted for evaluation.
   - f/u derm consult
   - start Benadryl
   - Haldol PRN for agitation
   - Sarna lotion
   - Start Triamcinolone 0.1% lotion
    # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient was  intubated for > 2weeks and went for
   tracheostomy/peg placement on [**2-12**] which went well.  Patient has been
   d/c
d from all antibiotics.  Sputum cultures, BAL, blood cultures have
   remained negative for MRSA or gram
 organisms.
   -- wean PS today to previous levels of 12 of PS and 5 of PEEP
   -- continue combivent MDIs q6h
    # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever and was
   transitioned to Vanc/Meropenem/Cipro. ID felt that her persistent
   fevers were likely secondary to drug fever and these medications were
   all d/c
d [**2-11**].  Fluconazole has also been discontinued.  CT chest shows
   multiple pulmonary nodules in right lung along with left lingular
   consolidation.  She should have a repeat CT Chest to look for
   resolution of her pulmonary nodules.
   -- cont to monitor
    # Fever
  At this point, most likely [**2-11**] drug fever as patient has
   remained with a normal WBC count and cultures have remained negative.
   Antiobiotics have been discontinued as above.  Rash is now extending
   from her back towards her abdomen,  If rash continues to spread then
   will consider derm consult.
   -- monitor rash
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr stable at 6.2 today and she has excellent Urine
   Output.  Renal has been following and have now removed her HD
   catheter.
   -- appreciate renal involvement
   -- follow lytes
    # Volume Overload. Currently slightly overloaded but given rash and
   fevers will not diurese today.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
  metabolic acidosis normalized, will cont to
   monitor
   -- monitor lytes
    # DM:  not on insulin at home.
   -- cont insulin SS
     # FEN: cont TF. Replete lytes with caution given renal failure
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-14**] 03:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-1**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-02-15 11:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.2
F - [**2193-2-14**] 12:00 PM
   Picc placed this am
   Derm suggests drug rash
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2193-2-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-15**] 08:34 AM
   Lansoprazole (Prevacid) - [**2193-2-15**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-15**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.8
C (101.9
   HR: 85 (85 - 112) bpm
   BP: 95/39(51) {95/32(49) - 150/94(106)} mmHg
   RR: 21 (21 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 6 (6 - 18)mmHg
   Total In:
                                                                  2,120 mL
                                                                  1,126 mL
   PO:
   TF:
                                                                    840 mL
                                                                    409 mL
   IVF:
                                                                    950 mL
                                                                    617 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                  1,430 mL
   Urine:
                                                                  1,835 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (385 - 544) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 9.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: all present
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  warm, rash over face and trunjk better. woirse over arms,
   different from torso because not completelyt blanching and has pin
   point lesiosn
   Neurologic: fluctuates, getting prn sedation
   Labs / Radiology
   7.7 g/dL
   286 K/uL
   189 mg/dL
   5.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   83 mg/dL
   109 mEq/L
   149 mEq/L
   24.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2193-2-11**]  10:41 AM
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
                             [**2193-2-15**]  04:51 AM
   WBC
   5.5
   5.6
   6.0
   6.9
   Hct
   25.7
   26.7
   24.5
   24.3
   Plt
   [**Telephone/Fax (3) 3931**]86
   Cr
   6.6
   6.4
   6.2
   6.5
   6.3
   6.1
   5.6
   TCO2
   32
   29
   28
   Glucose
   149
   126
   105
   112
   133
   135
   189
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**7-20**], Alk Phos / T Bili:53/0.4, Differential-Neuts:75.5 %,
   Lymph:17.4 %, Mono:1.9 %, Eos:4.9 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.9 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.3
   mg/dL
   Imaging: CXR: stable
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old woman with obesity hypoventilation, renal failure off CVVH,
   and persistent fever not associated with sepsis. Likely related to drug
   fever with worsening rash and eosinophils. All abx off.
   Peristent fever: drug rash vs new ICU infection vs sinusitis. t/b with
   Derm, call ENT to drain sinus, d/c central line, check picc line
   placement
   Agitation: d/c sedation, use seroquel and haldol for agitation
   Vent: Continue wean.
   Renal: Cr decreasing. Na 149, add free water
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-14**] 03:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-1**] 06:00 PM
   20 Gauge - [**2193-2-15**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min

2193-02-16 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2193-2-15**] 02:00 PM
   picc inserted at bedisde,reconformed the placement at angio(got
   autorotated)
 MULTI LUMEN - STOP [**2193-2-15**] 04:07 PM
 FEVER - 101.9
F - [**2193-2-15**] 08:00 AM
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2193-2-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-15**] 08:35 AM
   Haloperidol (Haldol) - [**2193-2-15**] 11:31 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-16**] 12:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-16**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.2
   HR: 97 (79 - 108) bpm
   BP: 147/48(73) {82/30(41) - 147/101(106)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 6 (6 - 14)mmHg
   Total In:
                                                                  4,200 mL
                                                                    512 mL
   PO:
   TF:
                                                                    840 mL
                                                                    243 mL
   IVF:
                                                                  2,990 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    285 mL
   Urine:
                                                                  2,165 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,035 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 534 (385 - 534) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 11 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   7.5 g/dL
   168 mg/dL
   5.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   79 mg/dL
   111 mEq/L
   148 mEq/L
   24.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
                             [**2193-2-15**]  04:51 AM
                             [**2193-2-16**]  03:55 AM
   WBC
   5.5
   5.6
   6.0
   6.9
   6.1
   Hct
   25.7
   26.7
   24.5
   24.3
   24.6
   Plt
   [**Telephone/Fax (3) 3931**]86
   273
   Cr
   6.4
   6.2
   6.5
   6.3
   6.1
   5.6
   5.2
   TCO2
   32
   29
   28
   Glucose
   126
   105
   112
   133
   135
   189
   168
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**9-21**], Alk Phos / T Bili:52/0.3, Differential-Neuts:64.1 %,
   Lymph:21.5 %, Mono:3.3 %, Eos:10.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:356 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
[**2193-2-14**] 12:36 am SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2193-2-14**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
      YEAST.    SPARSE GROWTH.
[**2193-2-15**] 3:48 pm CATHETER TIP-IV      Source: CVL.
   WOUND CULTURE (Pending):
[**2193-2-13**] 9:08 pm URINE      Source: Catheter.
                            **FINAL REPORT [**2193-2-14**]**
   URINE CULTURE (Final [**2193-2-14**]):    NO GROWTH.
   [**2-13**] Blood Cx- NGTD
   CXR [**2193-2-15**]
   Mild interstitial pulmonary edema is new. Examination is rotated
   severely
   with large cardiac silhouette obscuring much of the left lower lung.
   Small
   right pleural effusion stable. No pneumothorax.
   Tracheostomy tube is twisted, tip abutting right posterolateral wall of
   the
   trachea. No pneumothorax
   Assessment and Plan
   Assessment and Plan
   61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, course c/b difficulty to wean and
   persistent fevers.
   # Rash:  Patient has had a maculopapular, blanching, coalescing rash
   for one week.  Rash has spread from her back to her entire body.
   Concern is for drug rash given appearance of rash along with continued
   fevers.  Dermatology has been consulted for evaluation.
   - f/u derm consult
   - Continue Benadryl
   - Haldol PRN for agitation
   - Sarna lotion
   - Start Triamcinolone 0.1% lotion
    # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient was  intubated for > 2weeks and went for
   tracheostomy/peg placement on [**2-12**] which went well.  Patient has been
   d/c
d from all antibiotics.  Sputum cultures, BAL, blood cultures have
   remained negative for MRSA or gram
 organisms.
   -- wean PS today to previous levels of 12 of PS and 5 of PEEP
   -- continue combivent MDIs q6h
    # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever and was
   transitioned to Vanc/Meropenem/Cipro. ID felt that her persistent
   fevers were likely secondary to drug fever and these medications were
   all d/c
d [**2-11**].  Fluconazole has also been discontinued.  CT chest shows
   multiple pulmonary nodules in right lung along with left lingular
   consolidation.  She should have a repeat CT Chest to look for
   resolution of her pulmonary nodules.
   -- cont to monitor
    # Fever
  At this point, most likely [**2-11**] drug fever as patient has
   remained with a normal WBC count and cultures have remained negative.
   Antiobiotics have been discontinued as above.  Rash is now extending
   from her back towards her abdomen,  If rash continues to spread then
   will consider derm consult.
   -- monitor rash
   # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr stable at 6.2 today and she has excellent Urine
   Output.  Renal has been following and have now removed her HD
   catheter.
   -- appreciate renal involvement
   -- follow lytes
    # Volume Overload. Currently slightly overloaded but given rash and
   fevers will not diurese today.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
  metabolic acidosis normalized, will cont to
   monitor
   -- monitor lytes
    # DM:  not on insulin at home.
   -- cont insulin SS
     # FEN: cont TF. Replete lytes with caution given renal failure
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-15**] 12:09 PM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-2-15**] 08:00 AM
   PICC Line - [**2193-2-15**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-02-16 08:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2193-2-15**] 02:00 PM
   picc inserted at bedisde,  reconformed the placement at angio(got
   autorotated)
 MULTI LUMEN - STOP [**2193-2-15**] 04:07 PM
 FEVER - 101.9
F - [**2193-2-15**] 08:00 AM
   Got fluid for hypotension, good response
   Vent weaned to [**5-17**]
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Fluconazole - [**2193-2-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2193-2-15**] 11:31 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-16**] 08:08 AM
   Lansoprazole (Prevacid) - [**2193-2-16**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-16**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 89 (79 - 108) bpm
   BP: 128/46(64) {82/30(41) - 147/101(84)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  4,200 mL
                                                                    775 mL
   PO:
   TF:
                                                                    840 mL
                                                                    299 mL
   IVF:
                                                                  2,990 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    545 mL
   Urine:
                                                                  2,165 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,035 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 429 (392 - 534) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: all present
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  warm, rash over face and trunjk better. woirse over arms,
   different from torso because not completelyt blanching and has pin
   point lesiosn
   Neurologic: fluctuates, getting prn sedation
   Labs / Radiology
   7.5 g/dL
   273 K/uL
   168 mg/dL
   5.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   79 mg/dL
   111 mEq/L
   148 mEq/L
   24.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2193-2-11**]  11:00 AM
                             [**2193-2-12**]  03:41 AM
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
                             [**2193-2-15**]  04:51 AM
                             [**2193-2-16**]  03:55 AM
   WBC
   5.5
   5.6
   6.0
   6.9
   6.1
   Hct
   25.7
   26.7
   24.5
   24.3
   24.6
   Plt
   [**Telephone/Fax (3) 3931**]86
   273
   Cr
   6.4
   6.2
   6.5
   6.3
   6.1
   5.6
   5.2
   TCO2
   32
   29
   28
   Glucose
   126
   105
   112
   133
   135
   189
   168
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**9-21**], Alk Phos / T Bili:52/0.3, Differential-Neuts:64.1 %,
   Lymph:21.5 %, Mono:3.3 %, Eos:10.9 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:356 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old woman with obesity hypoventilation, improving renal failure
   off CVVH, and persistent fever not associated with sepsis. Likely
   related to drug fever with worsening rash and eosinophils. All abx off.
   Peristent fever: c/w drug rash with eosinoiphilia, rash better,
   eosinophilia worse
cont to follow
ABX off and will continue to follow
   WBC/Fever and Eos
   Agitation: d/c sedation, use seroquel and haldol for agitation
   Vent: Continue wean
goal is to decrease ventilator support towards PEEP
   only.
   Renal: Cr decreasing. Na 148, more free water
   PT consult, rehab screening
   Rest per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-14**] 03:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-1**] 06:00 PM
   20 Gauge - [**2193-2-15**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min

2193-02-17 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt afebrile X 24 hours
   Required haldol X1 overnight for agitation
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-2-16**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2193-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-17**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 83 (76 - 115) bpm
   BP: 117/46(63) {85/32(34) - 171/75(86)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,930 mL
                                                                    911 mL
   PO:
             TF:
                                                                    840 mL
                                                                    261 mL
   IVF:
                                                                  1,400 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    470 mL
   Urine:
                                                                  1,625 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,305 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (336 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 8.6 L/min
   Physical Examination
   Gen: on tracheal mask, answering yes/no questions with nodding of her
   head, states she has no pain
   CVS: +S1/S2, +II/VI SEM LUSB, no r/g
   LUNGS: CTAB anterior lung fields
   ABD: +obese, NT/ND, +BS
   EXT: +1 peripheral edema
   SKIN: +maculopapular coalescing rash over entire body
   Labs / Radiology
   296 K/uL
   7.2 g/dL
   187 mg/dL
   4.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   76 mg/dL
   110 mEq/L
   147 mEq/L
   23.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
                             [**2193-2-15**]  04:51 AM
                             [**2193-2-16**]  03:55 AM
                             [**2193-2-16**]  02:48 PM
                             [**2193-2-17**]  04:03 AM
   WBC
   5.6
   6.0
   6.9
   6.1
   5.1
   Hct
   26.7
   24.5
   24.3
   24.6
   23.5
   Plt
   261
   278
   286
   273
   296
   Cr
   6.2
   6.5
   6.3
   6.1
   5.6
   5.2
   4.3
   4.5
   TCO2
   29
   28
   Glucose
   105
   112
   133
   135
   189
   168
   155
   187
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**9-21**], Alk Phos / T Bili:52/0.3, Differential-Neuts:64.0 %,
   Lymph:18.5 %, Mono:5.1 %, Eos:12.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.9
   mg/dL
   Microbiology: [**2193-2-15**] 3:48 pm CATHETER TIP-IV      Source: CVL.
      WOUND CULTURE (Preliminary):    No significant growth.
   [**2193-2-14**] 12:36 am SPUTUM     Site: ENDOTRACHEAL
                               **FINAL REPORT [**2193-2-16**]**
      GRAM STAIN (Final [**2193-2-14**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2193-2-16**]):
         RARE GROWTH OROPHARYNGEAL FLORA.
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
   61 year old female with history of obesity hypoventilation syndrome,
   initially admitted with hypercarbic and hypoxemic respiratory failure
   and hypotension, now with ARF, course c/b difficulty to wean and
   persistent fevers.
    # Rash:  Patient has had a maculopapular, blanching, coalescing rash
   for one week.  Rash has spread from her back to her entire body.
   Dermatology has been consulted for evaluation, findings c/w drug rash
   - f/u derm consult, appreciate recs
   - Continue Benadryl
   - Haldol PRN for agitation
   - Sarna lotion
   - Triamcinolone 0.1% lotion
    # Respiratory failure.  Secondary to hypercarbic/hypoxemic respiratory
   failure.  Patient was  intubated for > 2weeks and went for
   tracheostomy/peg placement on [**2-12**] which went well.  Patient has been
   d/c
d from all antibiotics.  Sputum cultures, BAL, blood cultures have
   remained negative for MRSA or gram
 organisms.   Patient has now
   tolerated tracheal mask through the morning.  She is being transferred
   to rehab today.
   -- cont tracheal mask, can use intermittent Pressure Support if needed
   for rest
   -- continue combivent MDIs q6h
    # Ventilator Associated PNA
 Pt has previously completed a course of
   Vanc/Zosyn for PNA. Developed new infiltrates and fever and was
   transitioned to Vanc/Meropenem/Cipro. ID felt that her persistent
   fevers were likely secondary to drug fever and these medications were
   all d/c
d [**2-11**].  Fluconazole has also been discontinued.  CT chest shows
   multiple pulmonary nodules in right lung along with left lingular
   consolidation.  She should have a repeat CT Chest to look for
   resolution of her pulmonary nodules.
   -- cont to monitor
     # Fever
  At this point, most likely [**2-11**] drug fever as patient has
   remained with a normal WBC count and cultures have remained negative.
   Antiobiotics have been discontinued as above.  Rash is now stable.
   -- monitor rash, appreciate derm recs
    # Acute renal failure. likely due to ATN in setting of sepsis and
   hypotension. Cr continues to trend down today and she has excellent
   Urine Output.  Renal has been following and have now removed her HD
   catheter.
   -- appreciate renal involvement
   -- follow lytes
    # Volume Overload. Currently slightly overloaded but given rash and
   fevers will not diurese today.
   -- hold lasix
   -- goal even
   -- IVF boluses PRN
    # Chronic Respiratory Acidosis/Compensatory Metablic Alkalosis/Acute
   Metabolic Acidosis
  metabolic acidosis normalized, will cont to
   monitor
   -- monitor lytes
    # DM:  not on insulin at home.
   -- cont insulin SS
    # FEN: cont TF. Replete lytes with caution given renal failure,
   increase free water intake to 2L daily
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-16**] 12:05 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2193-2-15**] 02:00 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer:  H2 blocker
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  rehab today

2193-02-17 08:25:00 Physician Attending Progress Note
Chief Complaint: Resp and renal failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tolerated TM well yesterday, rested overnight.
   Haldol for agitation overnight
   Afebrile x 24 hrs from drug fever
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-17**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-17**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (96.9
   HR: 75 (75 - 115) bpm
   BP: 119/45(61) {85/32(34) - 171/75(86)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,930 mL
                                                                  1,133 mL
   PO:
             TF:
                                                                    840 mL
                                                                    293 mL
   IVF:
                                                                  1,400 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    610 mL
   Urine:
                                                                  1,625 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,305 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (336 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 8.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: all present
   Respiratory / Chest:Clear, no wheezes, few secretions
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  warm, rash over face and trunjk better. woirse over arms,
   different from torso because not completelyt blanching and has pin
   point lesiosn
   Neurologic: fluctuates, getting prn sedation
   Labs / Radiology
   7.2 g/dL
   296 K/uL
   187 mg/dL
   4.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   76 mg/dL
   110 mEq/L
   147 mEq/L
   23.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2193-2-12**]  02:17 PM
                             [**2193-2-13**]  03:31 AM
                             [**2193-2-13**]  04:18 AM
                             [**2193-2-13**]  07:13 AM
                             [**2193-2-13**]  07:42 PM
                             [**2193-2-14**]  03:22 AM
                             [**2193-2-15**]  04:51 AM
                             [**2193-2-16**]  03:55 AM
                             [**2193-2-16**]  02:48 PM
                             [**2193-2-17**]  04:03 AM
   WBC
   5.6
   6.0
   6.9
   6.1
   5.1
   Hct
   26.7
   24.5
   24.3
   24.6
   23.5
   Plt
   261
   278
   286
   273
   296
   Cr
   6.2
   6.5
   6.3
   6.1
   5.6
   5.2
   4.3
   4.5
   TCO2
   29
   28
   Glucose
   105
   112
   133
   135
   189
   168
   155
   187
   Other labs: PT / PTT / INR:15.0/31.7/1.3, CK / CKMB / Troponin-T:202//,
   ALT / AST:[**9-21**], Alk Phos / T Bili:52/0.3, Differential-Neuts:64.0 %,
   Lymph:18.5 %, Mono:5.1 %, Eos:12.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:356 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
   61 year old woman with resp failure from pneumonia, obesity
   hypoventilation, improving renal failure off CVVH, and drug rash and
   fever with eosinophilia. All abx off. Trach and peg.
   Vent: TM for a long time yesterday.  No secretions. PMV at rehab.
   Drug rash/fever: improved/
   Agitation: haldol prn
   Renal: Cr decreasing. Na 148, more free water
   Rest per resident note
   Patient seen by Pulmonary/Critical Care fellow.
   Patient discharged to rehab prior to my having a chance to examine her.
   [**First Name11 (Name Pattern1) 161**] [**Last Name (NamePattern4) 243**], MD
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-2-14**] 03:16 PM 35 mL/hour
   Glycemic Control:  riss
   Lines:
   Multi Lumen - [**2193-2-1**] 06:00 PM
   20 Gauge - [**2193-2-15**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to rehab today
   Total time spent:  45 min